### PR TITLE
Feat: Dafny format file.dfy and IDE extension

### PR DESCRIPTION
**Pull request by MikaelMayer**
This PR makes it possible to "format" one or many Dafny files on the command-line, which for now means only changing the indentation of every single line. This is a step towards #1658

Supported syntax:

* `dafny format file1.dfy file2.dfy file3.dfy...` Format each file provided in arguments.
* `dafny format -print:- file1.dfy` Format each file but instead of writing files, output them formatted in stdout
* `dafny format .` Look up for all the Dafny files recursively in the current repository and format them.

# Insights

Coming up with an opinionated formatter wasn't an easy task. We want the guarantee that the reprinted program should be the same as the previous one, modulo whitespace.
Our approach in this PR consists of three phases:

1. Convert tokens to a double linked list so that we can traverse them from the beginning to the end and store the first token in the program (Scanner.frame, and all AST nodes)
2. Traverse the program on pre-resolved nodes, and decide on the indentation of each token when it's associated to a declaration, a node, a statement, etc.
3. Reprint the tokens in their original order by replacing their leading and trailing whitespace by their correctly indented counterpart

Step 3. has been entirely written in Dafny, and offers the interesting guarantee that the final reprinted program will contain all the "val" of every token reachable from the first token provided in input.

## What is the indentation of a "token"?

This PR considers that each token has to be associated with 3 types of indentation.
1. The indentation about comments that are before this token
2. The indentation of this token itself if it starts a new line
3. The indentation of comments that are after this token.

Because the token printer will traverse the tokens in order, the indentation 1. is used only for the trivia associated to the token in the leading whitespace of that token, like `/* Comment about X */` in the following example, which is in the leading trivia of `const`

```
datatype Y :=
   | C
     // Comment about C
   | D
     // Comment about D

/* Comment about X */
const X :=
```
Note that in this same example, the indentation of `Comment about D` is possible because of the indentation stored in 3.

The indentation of 2. makes is possible to have the token to be a delimiter of two indented regions, like this:

```dafny
if X then
  Y
else // Here "else" has its own indentation
  Z
```

# How this PR has been tested?

* I added the test Formatter.cs in the pipeline with 64 different tests, where almost each test starts from a totally unindented program, verifies the new indent, and reindent it once more to ensure the indentation is idempotent.
* I added the test FormatterTest.cs in the language server to ensure it behaves as expected.

# Rules implemented:

- Indentation is based on spaces only. Tabs are replaced with spaces. One indentation level consists of 2 spaces

# Interesting cases

## Assignments

The basic rule is that, after `:=` , there is indentation, except in one case that I found were quite common: Single calls on the RHS don't have extra indentation:
```dafny
y := functionCall(
  arg1,
  arg2
);
```
However, if there are multiple calls, there is extra indentation so that we know where this finishes
```dafny
y := functionCall(
    arg1,
    arg2
  ),
  functionCall2(
    arg3
  );
```

Moreover, if there is a single RHS but it's on a separate line, it has to be indented.
```dafny
y :=
  functionCall(
    arg1,
    arg2
  );
```
And, if the RHS is a closure, it should still be indented,
as the arrow "=>" is not a delimiter of an end of region
```dafny
x := () reads A
        reads B // We want clauses to be aligned
  => // The arrow should still be indented
```
If the first right-hand-side is one one line, all right-hand-side are aligned
```dafny
var y,
    z
  := OneFunctionCall(n),
     OneFunctionCall(n+1);
```
However, if the first right-hand-side spans multiple lines, the subsequent ones do not need to be aligned, just indented
```dafny
var y,
    z
  := OneFunctionCall(
    n
  ),
  OneFunctionCall(
    n+1
  );
```
## Comprehensions
Comprehensions like ``imap` make an extra effort to indent their inner expressions when the keyword is alone on its line.
```dafny
  var a :=
    imap
      t: int ::  t % 3
              == 4
             := 5;
```
Otherwise, they keep the surrounding indentation. In any case, they align ":=" and "::" as much as possible and indent their arguments, if they are placed at the beginning of the line.
```dafny
  b := imap
    i: int
    ::
      i % 6 == 7
    :=
      8;

  b := imap
    i: int ::
    i % 6 == 7 :=
    8;

  d := imap i: int
    |  i % 12 == 0
    :: i % 13 == 0
    := 14;
```

## Aligned `//`
```dafny
var x := y; // Line 1
            // Line 2
```
The formatter keeps the alignment of consecutive and already aligned comments starting with `//`, like the one above.
Adding or removing one space in the indentation of `// Line 2` will make the formatter take the default indentation:
```dafny
var x := y; // Line 1
// Line 2
```

## Adding spaces to avoid changing blocks
```
module X {
  class A {
      const x := 2;    /* start of comment
These words aligned:      start */
}
```
Here `const` needs to be de-indented, so we need to add spaces in front of the `/*`

## Commented cases and datatypes constructors

```dafny
datatype Main =
  | Child1
    // Comment about child1
  | Child2
  //| ForgottenChild
  | Child4 

match X {
  case 1 =>
     blablah
     //Comment about blablah
  
  // Comment about case2
  case 2 =>
    something
  //case 3 =>
  case 4 =>
}
```
Normally, comments after a constructor are aligned with this constructor. But above, it's obvious that one comment is not about Child2, but a commented case.
Here we add the rule that comment starting with `//|` in such cases are indented like the other `|` around, Same for commented `case 3`, in the match statement above.

## Alignment of binary comparison operators

```dafny
assert (x
     == y
      < z)
```
In many places, multi-line equality and comparison align their arguments. The formatter implements this behavior, so even if normally things in parentheses are a single block, there is an extra de-indent for these operators. This works for chaining expressions and calc statements as well.

## Else alignment

```dafny
var z := if x == y then blabla
                   else blibli;
if z == 1 then bloblo
else blublu
```
Here we have two common cases: if-then-else where the "else" and the "then" are on two different lines, and they have contradictory indentation. We resolved this contradiction by deciding that, if the "then" is aligned with the "else" before, the formatter will keep this alignment no matter what. Otherwise, it will indent the "else" next to the "if"

## Case with opening parentheses

```dafny
match X
case Z => (
  match U
  case P1 =>
  case P2 =>
  )
case W =>           
```

The formatter assumes that `(` always defines a block in which everything is in (meaning, their column is equal or greater to the column of  `(`. But in the case above, it was obvious that the parentheses are there only to disambiguate.
The formatter will not consider that `(` creates a full block if it's followed by a newline and it's preceeded by "=>"

## Clear disambiguation

The Dafny formatter helps distinguishing otherwise ambiguous programs, such as this one:

```dafny
method J(xs : List<int>) returns (z : int) {
  match xs
    case Cons(y,ys) =>
      z := y;
    case Nil        =>
      z := 0;

  if {
    case true => z := z;
    case true => z := 1;
  }
}
```
The Dafny formatter will indent it like this:

```dafny
method J(xs : List<int>) returns (z : int) {
  match xs
    case Cons(y,ys) =>
      z := y;
    case Nil        =>
      z := 0;

      if {
        case true => z := z;
        case true => z := 1;
      }
}
```
because the last `if` is parsed as part of the last case. Of course, it's always better to use the `{}` for the `match` statement to avoid these ambiguities, but at least the formatter will help.

## Blocks and hints.

Usually, blocks delimited with `{}` have a prelude, so it makes sense that comments right before a `{` are indented one extra level.
```dafny
while X
  invariant X
  // Comment about the loop
{
}
```

Except in one case: Hints in calc statements
```dafny
calc {
    A;
    // Comment in the calc statement
    { lemma(); }
== B
}
```

# Expected follow-up PRs:

* Integrate the change to the PreprocessorHelper directly into Boogie (https://github.com/dafny-lang/dafny/pull/2399#discussion_r982787852)

<small>By submitting this pull request, I confirm that my contribution is made under the terms of the [MIT license](https://github.com/dafny-lang/dafny/blob/master/LICENSE.txt).</small>

### CODE REVIEW

File: Source/Dafny/AST/TokenFormatter.dfy [hunk 1]
```diff
@@ -0,0 +1,97 @@
...
+  public class HelperString {
+    public static readonly System.Text.RegularExpressions.Regex NewlineRegex =
+      new System.Text.RegularExpressions.Regex(new string(new char[]  
+        {'(','?','m',')','(','^',')','\\','s','*'}));
+
+    public static string Reindent(string input, string newIndent) {
+      return NewlineRegex.Replace(input, newIndent);
+    }
+  }
+} /*/"} DefaultCode {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/Dafny/AST/TokenFormatter.dfy:11]: Will surely do, until we have something like:

```dafny
unsafe "csharp" {
  // blablah
}
```

:-)

**Comment by MikaelMayer** [comment]
> Thanks for building this feature! I wonder will this be integrated to [dafny-lang/ide-vscode](https://github.com/dafny-lang/ide-vscode) soon?

This branch already has minimum VSCode integration. So now, it's just a matter of final decisions until we release it.

File: Source/DafnyDriver/DafnyDriver.cs [hunk 2]
```diff
@@ -100,8 +108,14 @@ public enum ExitValue { SUCCESS = 0, PREPROCESSING_ERROR, DAFNY_ERROR, COMPILE_E
       Contract.Requires(cce.NonNullElements(args));
 
       var dafnyOptions = new DafnyOptions();
-      CommandLineArgumentsResult cliArgumentsResult = ProcessCommandLineArguments(dafnyOptions, args, out var dafnyFiles, out var otherFiles);
-      var driver = new DafnyDriver(dafnyOptions);
+      var action = DriverAction.Run;
+      if (args.Length > 0 && args[0] == "format") {
+        action = DriverAction.Format;
+        args = args.Skip(1).ToArray();
+      }
```
Comment (alex-chew) [inline Source/DafnyDriver/DafnyDriver.cs:115]: Is there a reason this logic can't be handled within `ProcessCommandLineArguments` itself?

File: Source/DafnyDriver/DafnyDriver.cs [hunk 3]
```diff
@@ -302,7 +317,49 @@ public enum CommandLineArgumentsResult {
...
+              }
+            } else {
+              Console.Error.WriteLine("Could not find text there");
+              errors += 1;
+            }
+          }
+        }
+
+        if (dafnyFiles.Count != 1) {
+          Console.Out.WriteLine("Formatted " + (dafnyFiles.Count - errors) + " files, ignored " + errors + " files");
```
Comment (alex-chew) [inline Source/DafnyDriver/DafnyDriver.cs:356]: Rather than "ignored", we tried and failed to parse them, right? If that's the case then maybe we should say "failed to parse" to be precise.

File: Source/DafnyDriver/DafnyDriver.cs [hunk 4]
```diff
@@ -302,7 +317,49 @@ public enum CommandLineArgumentsResult {
...
+            if (firstToken != null) {
+              var result = Formatting.__default.printSourceReindent(firstToken,
+                IndentationFormatter.ForProgram(dafnyProgram));
+              if (DafnyOptions.O.PrintFile == "-") {
+                Console.Out.Write(result);
+              } else {
+                WriteFile(dafnyFile.FilePath, result);
+              }
+            } else {
+              Console.Error.WriteLine("Could not find text there");
```
Comment (alex-chew) [inline Source/DafnyDriver/DafnyDriver.cs:349]: Am I understanding correctly that this branch occurs when a file successfully parses and contains no tokens? If that's the case then should we really count that as an error?

File: Source/DafnyPipeline.Test/Trivia.cs [hunk 5]
```diff
@@ -36,6 +36,7 @@ enum Newlines { LF, CR, CRLF };
 // Trait docstring
 { }
 // This is attached to trait2
+// This is also attached to trait2
```
Comment (alex-chew) [inline Source/DafnyPipeline.Test/Trivia.cs:39]: Should we add assertions for these changes?

File: docs/DafnyRef/UserGuide.md [hunk 6]
```diff
@@ -144,6 +144,18 @@ Errors in earlier phases of processing typically hide later errors.
 For example, if a program has parsing errors, verification or compilation will
 not be attempted.
 
+### 25.6.1. The Dafny formatter
+
+Dafny supports a formatter, which for now only changes the indentation of every line in a Dafny file, so that it conforms
+to a specific model that matches the format of most of what the Dafny team wrote in the past.
```
Comment (alex-chew) [inline docs/DafnyRef/UserGuide.md:150]: That the formatting style matches historical Dafny code is an interesting fact, but IMHO we should be more prescriptive here. If we intend that the formatter enforces "idiomatic" Dafny style, we should say something along the lines of:

```suggestion
Dafny supports a formatter, which for now only changes the indentation of every line in a Dafny file, so that it conforms
to the idiomatic Dafny code formatting style.
```

(or perhaps a bit weaker to indicate that the formatter only captures the indentation of the idiomatic Dafny code formatting style)

File: dotnet-tools.json [hunk 7]
```diff
@@ -13,6 +13,12 @@
       "commands": [
         "dotnet-format"
       ]
+    },
+    "dafny": {
+      "version": "3.7.1.40621",
```
Comment (alex-chew) [inline dotnet-tools.json:18]: Is this intended to be a fixed version number, or should there be a mechanism to keep it up-to-date with the latest release (or whatever's in the repo)?

**Review by alex-chew — COMMENTED** [review]
Since this is a larger PR I'll publish comments in chunks as I go through the review. More to come :)

File: Source/DafnyDriver/DafnyDriver.cs (hunk 3 above)
Comment (MikaelMayer) [reply Source/DafnyDriver/DafnyDriver.cs]: Good idea. I also changed the code to include the files with errors.

File: Source/DafnyDriver/DafnyDriver.cs (hunk 4 above)
Comment (MikaelMayer) [reply Source/DafnyDriver/DafnyDriver.cs]: First, it's unexpected that the formatter will find an empty file. Second. I had seen cases (not anymore) when the formatter wrongly thought that there were no content when there was. Hence, I would like to report them as well, just in case.

File: Source/DafnyPipeline.Test/Trivia.cs (hunk 5 above)
Comment (MikaelMayer) [reply Source/DafnyPipeline.Test/Trivia.cs:39]: Not necessary, as the comment afterwards is attached to the next token. I was just clarifying the comment :-)

File: docs/DafnyRef/UserGuide.md (hunk 6 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: > (or perhaps a bit weaker to indicate that the formatter only captures the indentation of the idiomatic Dafny code formatting style)

I like the way you phrased it, so I applied your changes.

File: dotnet-tools.json (hunk 7 above)
Comment (MikaelMayer) [reply dotnet-tools.json:18]: No, it has to be a fixed number to avoid recursion on the same version (i.e. you break the dafny compiler, and because you have compiler code that is written in Dafny, you cannot compile it anymore using the current branch).

File: Source/DafnyDriver/DafnyDriver.cs [hunk 8]
```diff
@@ -302,7 +317,49 @@ public enum CommandLineArgumentsResult {
       }
 
       string programName = dafnyFileNames.Count == 1 ? dafnyFileNames[0] : "the_program";
-      string err = Dafny.Main.ParseCheck(dafnyFiles, programName, reporter, out var dafnyProgram);
+      Program dafnyProgram;
+      string err;
+      if (Action == DriverAction.Format) {
+        if (dafnyFiles.Count == 0) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyDriver/DafnyDriver.cs:324]: I moved it as suggest by @alex-chew  to the method that processes arguments. That makes sense.

**Review by alex-chew — COMMENTED** [review]
More to come, particularly on the bigger files...

File: Source/DafnyCore/AST/PreprocessorHelper.cs [hunk 9]
```diff
@@ -0,0 +1,171 @@
+﻿using System;
+using System.Collections.Generic;
+using System.Diagnostics.Contracts;
+using System.IO;
+using System.Text;
+
+namespace Microsoft.Dafny; 
+
+// Same as Boogie.ParserHelper, except that it takes newlines into account
+public static class PreprocessorHelper {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/PreprocessorHelper.cs:10]: Yes, I think we could change boogie for that as you suggest. I can do this in a follow-up PR.

File: Source/DafnyCore/AST/TopLevelDeclarations.cs [hunk 10]
```diff
@@ -924,14 +935,28 @@ public class ModuleDefinition : IDeclarationOrUsage, INamedRegion, IAttributeBea
...
+          module.Item2.ModuleDef.GetFirstTopLevelToken()).Where(tok => tok.line > 0);
+      } else {
+        return new List<IToken>() { };
+      }
+    });
+    if (this is DefaultModuleDecl { Includes: { Count: > 0 } includes } && includes[0].OwnedTokens.Count > 0) {
+      return includes[0].OwnedTokens[0];
+    }
+
+    return topTokens.MinBy(token => token.pos);
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:959]: topToken is not guaranteed to be non-empty, but yes it's safe to return null here.
You're right, I'll fix this with a null check.

File: Source/DafnyLanguageServer/Handlers/DafnyCodeActionHandler.cs [hunk 11]
```diff
@@ -193,9 +193,6 @@ public class DafnyCodeActionInput : IDafnyCodeActionInput {
   }
 
   public string Extract(Range range) {
-    if (!CodeLineToPos.ContainsKey(range.Start.Line)) {
-      return ""; // Out of range
-    }
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyLanguageServer/Handlers/DafnyCodeActionHandler.cs:198]: The deletion of these three lines is a mistake. I'll fix it.

File: Source/DafnyCore/AST/Formatting.dfy [hunk 12]
```diff
@@ -0,0 +1,157 @@
...
+  module {:extern "Dafny"} Dafny {
+    module {:extern "Formatting"} Formatting {
+      import opened MicrosoftDafny
+      import opened System
+
+      const {:extern "System", "String.Empty"} CsStringEmpty: CsString;
+
+      trait IIndentationFormatter {
+        function Reindent(token: IToken, trailingTrivia: bool, precededByNewline: bool, indentation: CsString, lastIndentation: CsString): CsString
+        // Returns -1 if no indentation is set
```
Comment (alex-chew) [inline Source/DafnyCore/AST/Formatting.dfy:96]: What does it mean to return `-1` from this method?

File: Source/DafnyCore/AST/Formatting.dfy [hunk 13]
```diff
@@ -0,0 +1,157 @@
...
+          requires token.Valid()
+          ensures token.allTokens == old(token.allTokens)
+      }
+
+      lemma IsAllocated<T>(x: T)
+        ensures allocated(x) {
+      }
+
+      /** Prints the entire program while fixing identation, based on a map */
+      method printSourceReindent(firstToken: IToken, reindent: IIndentationFormatter) returns (s: CsString)
```
Comment (alex-chew) [inline Source/DafnyCore/AST/Formatting.dfy:114]: 1. Do I understand correctly that "entire program" refers to `firstToken.allTokens`?
2. What is meant by "based on a map"? I can't seem to find a map used anywhere in the body of this method.

File: Test/dafny0/formatting1-3.dfy [hunk 14]
```diff
@@ -0,0 +1,2 @@
+// RUN: %diff "%s" "%s"
```
Comment (alex-chew) [inline Test/dafny0/formatting1-3.dfy:1]: What's the purpose of this line? (and same for `formattinginclude.dfy`)

**Review by keyboardDrummer — COMMENTED** [review]
Congrats on completing this massive effort! I imagine it must have been tough to stay at it for so long.

One comment about the size though. I wonder whether it would have been possible to first cut a PR that only supports proper formatting for some of the AST types, and then cut subsequent PRs to extend that. My impression is that reviewing PRs with more than 500 changed lines is mentally fatiguing and reduces the quality of the review. A colleague of mine used to say that the bigger the PR the fewer comments you get. Having a small initial PR also allows the reviewer to first focus on the design before getting sucked into scaling it.

I know this is a subjective comment, but a PR with 7K unrefactored changes is quite unique and I'm guessing it would be better to avoid this in the future.

Would it have been possible to let unsupported AST types not be formatted and already provide partial formatting capability to customers?

File: Test/dafny0/formatting1-3.dfy (hunk 14 above)
Comment (MikaelMayer) [reply Test/dafny0/formatting1-3.dfy:1]: > What's the purpose of this line? (and same for formattinginclude.dfy)

I got an error from the test engine saying that it could not find a lit command in this Dafny file.
Because I don't know how to skip files from being tested at this point, I added a dummy test.

File: docs/DafnyRef/UserGuide.md [hunk 15]
```diff
@@ -144,6 +144,18 @@ Errors in earlier phases of processing typically hide later errors.
...
+
+Dafny supports a formatter, which for now only changes the indentation of every line in a Dafny file, so that it conforms
+to the idiomatic Dafny code formatting style.
+For the formatter to work, the file should be parsed correctly by Dafny.
+
+There are three ways to use the formatter:
+
+* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments.
+* `dafny format /print:- file1.dfy file2.dfy ...` format each file but instead of writing files, output their formatted content in stdout
+* `dafny format` Look up for all the Dafny files recursively in the current repository and format them.
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:157]: I have the "-check" option ready in a future commit. I just need to add some tests.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 12 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:96]: Good catch, this comment was outdated.

File: Source/DafnyCore/Dafny.atg [hunk 16]
```diff
@@ -952,19 +981,25 @@ Dafny
...
-                                             if (!Path.IsPathRooted(includedFile)) {
-                                               string basePath = Path.GetDirectoryName(parsedFile);
-                                               includedFile = Path.Combine(basePath, includedFile);
-                                             }
-                                             defaultModule.Includes.Add(new Include(t, parsedFile, includedFile, theCompileThisFile));
-                                           }
-                                        .)
+     var ownedTokens = new List<IToken>();
+  .)
+  { "include"                 (. ownedTokens.Add(t); .)
```
Comment (alex-chew) [inline Source/DafnyCore/Dafny.atg:986]: A general comment about this file - It seems unfortunate that we need to manually track owned tokens in the grammar, but I can understand that assigning ownership post-parse might not be any cleaner. I'm concerned that later changes/additions to the grammar might introduce missing/incorrect `ownedTokens`. Do we at least have a test to check that every token is accounted for in some `ownedTokens`?

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 17]
```diff
@@ -0,0 +1,2611 @@
...
+      arg(
+        12, 13)),
+    func2());
+  me
+  (func
+   (arg
+    (1
+    ,2)),
+   func2());
+}
```
Comment (alex-chew) [inline Source/DafnyPipeline.Test/Formatter.cs:94]: I'm concerned that, when the formatter grows sophisticated enough to care about e.g. comma placement and line breaks, we're going to have to change a _lot_ of this file's tests - and when we do so we might not remember which features of the existing formatting we're exercising in each test/statement/expression.

File: Source/DafnyCore/AST/Formatting.dfy [hunk 18]
```diff
@@ -0,0 +1,157 @@
...
+          IsAllocated(allTokens[0..i]);
+          var indentationBefore, indentationBeforeSet,
+              lastIndentation, lastIndentationSet,
+              indentationAfter, indentationAfterSet := reindent.GetIndentation(token, currentIndent);
+
+          var newLeadingTrivia := reindent.Reindent(token, false, leadingTriviaWasPreceededByNewline, indentationBefore, lastIndentation);
+          var newTrailingTrivia := reindent.Reindent(token, true, false, indentationAfter, indentationAfter);
+          leadingTriviaWasPreceededByNewline := HelperString.FinishesByNewline(token.TrailingTrivia);
+          ghost var sPrev := s;
+          s := String.Concat(s, String.Concat(newLeadingTrivia, String.Concat(token.val, newTrailingTrivia)));
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:147]: Shouldn't you use a StringBuilder here, to get linear instead of quadratic performance?

**Review by keyboardDrummer — COMMENTED** [review]
Does this formatter also work for generated AST nodes, that may not have associated tokens? Or would you then have to pretty print, parse and then format?

I think we discussed this before, but without too much context, my expectation of a formatter would be that it's an enhanced version of a printer which also prints trivia/tokens attached to the AST nodes, so it's able to work both with AST nodes that have trivia (those that are parsed from source), and those that don't (generated as part of refactorings).

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 19]
```diff
@@ -0,0 +1,2611 @@
...
+      U>(a: T, b: U)
+  
+  method f8
+    <
+      T(00),
+      U
+    >(a: T, b: U)
+  
+  method f9<
+      T, U>(a: T, b: U)
```
Comment (keyboardDrummer) [inline Source/DafnyPipeline.Test/Formatter.cs:160]: How is this indentation determined?

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 20]
```diff
@@ -0,0 +1,2290 @@
...
+      posToIndentLineBefore[token.pos] = sameLineBefore;
+    }
+
+    if (after >= 0) {
+      posToIndentAfter[token.pos] = after;
+    }
+  }
+
+  // functions, methods, predicates, iterators...
+  void SetMethodLikeIndent(IToken startToken, IEnumerable<IToken> ownedTokens, int indent) {
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:318]: Hey, I do find this quite hard to read. It doesn't give me an overview of what the end result looks like by reading the code. Syntactically it reminds me of a hand written parser that switches on symbols to update a state, as opposed to a parser defined using a grammar.

Did you happen to read this paper about a formatter for R? http://static.googleusercontent.com/media/research.google.com/en//pubs/archive/44667.pdf

It uses combinators to define the formatter, and includes a choice combinator to enable allowing formatting in different ways, which allows things like changing the formatting depending on whether there's a newline after `<` or not, like you're doing here. This paper is more aggressive in its formatting though since it also inserts newlines, but you could replace the search algorithm that determines when to insert newlines by one that uses the existing newlines to decide which direction to go in.

File: docs/DafnyRef/UserGuide.md (hunk 15 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: I just pushed a commit that includes the `--check` option as you suggested. It was actually a feature already asked by some other users.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 12 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy]: I removed this obsolete comment.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 13 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:113]: > Do I understand correctly that "entire program" refers to firstToken.allTokens?
> What is meant by "based on a map"? I can't seem to find a map used anywhere in the body of this method.

1. Yes, the entire program's token is obtained by traversing the tokens starting at `firstToken`, the first token of the program. `allTokens` is a ghost variable that only keeps track of all the successors of `firstToken`.
2. I changed the comment to:

```dafny
/** Prints the entire program while fixing identation, based on
          1) indentation information provided by the IIndentationFormatter reindent
          2) Reindentation algorithm provided by the same reindent */
```

File: Test/dafny0/formatting1-3.dfy (hunk 14 above)
Comment (MikaelMayer) [reply Test/dafny0/formatting1-3.dfy:1]: I found that lit tests were automatically triggered on any Dafny file, and were failing on these files because they don't contain lit commands. So my workaround is to add a dummy lit command that will just always pass, but there is nothing to test. I couldn't find lit documentation other than our own usage of lit.

**Comment by davidcok** [comment]
A few thoughts:
- Re: dafny format` Look up for all the Dafny files recursively in the current repository and format them.
Perhaps that should take an argument that is a folder path and recursively do all the .dfy files under the folder
- When replacing the original file with formatted version, users might want an option to move the original file to a backup name (I realize that in a repo, one can always go back to some previous commit, but not everything is in a repo)
- Or perhaps vice versa -- all the formatted files go into some out directory

File: Source/DafnyCore/Dafny.atg [hunk 21]
```diff
@@ -109,6 +110,26 @@ void CheckDeclModifiers(ref DeclModifierData dmod, string declCaption, AllowedDe
   }
 }
 
+// Lists all the tokens, including the dots in between.
+List<IToken> GetTokenRange(List<IToken> tokens) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Dafny.atg:114]: Yes. This method is called with a ordered list of tokens, but not necessarily consecutive. For example, a module identifier might be like `new List<IToken>(){"moduleName", "submoduleName"}` Hence, it's forgetting the token containing the "." in the middle, which is what this method recovers.

File: Source/DafnyCore/Dafny.atg [hunk 22]
```diff
@@ -1991,10 +2088,11 @@ ReadsClause<.List<FrameExpression/*!*/>/*!*/ reads,
   OldSemi
   .
 
-/*------------------------------------------------------------------------*/
-InvariantClause<. List<AttributedExpression> invariants.> =
+/*-----------------------------------------------------pp-------------------*/
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Dafny.atg:2091]: I'll put this one on the cat :-)

**Comment by MikaelMayer** [comment]
> * Re: dafny format` Look up for all the Dafny files recursively in the current repository and format them.
>   Perhaps that should take an argument that is a folder path and recursively do all the .dfy files under the folder

I see this as one more feature, and I'm already full of features for this PR, so feel free to open an issue after this PR is merged. This can already be achieved by running `(cd your_directory && dafny format)`

> When replacing the original file with formatted version, users might want an option to move the original file to a backup name (I realize that in a repo, one can always go back to some previous commit, but not everything is in a repo)
> Or perhaps vice versa -- all the formatted files go into some out directory

like `dafny format --backup file.dfy` ? Could you please open an issue after this formatting PR? It's going to be yet one more heavy feature that needs to be carefully designed on its own.

**Comment by davidcok** [comment]
Regarding: Re: dafny format` Look up for all the Dafny files recursively in the current repository and format them.
Perhaps that should take an argument that is a folder path and recursively do all the .dfy files under the folder
I see this as one more feature, and I'm already full of features for this PR, so feel free to open an issue after this PR is merged. This can already be achieved by running (cd your_directory && dafny format)

Perhaps I misunderstood - does `dafny format` do everything recursively under the current directory or does it do everything in the current repo (wherever the current directory is)? If the former, then my suggestion is not needed.

File: Test/dafny0/formatting1-3.dfy (hunk 14 above)
Comment (keyboardDrummer) [reply Test/dafny0/formatting1-3.dfy:1]: Several of our test files that don't have commands contain `// RUN: echo ''` to be mostly ignored by lit.

Comment (MikaelMayer) [reply Test/dafny0/formatting1-3.dfy:1]: That works as well! Would you prefer that approach?

Comment (keyboardDrummer) [reply Test/dafny0/formatting1-3.dfy:1]: Maybe `// RUN: echo 'lit should ignore this file'` to be super clear

File: Source/DafnyPipeline.Test/Formatter.cs (hunk 17 above)
Comment (MikaelMayer) [reply Source/DafnyPipeline.Test/Formatter.cs:95]: I think this is a reasonable concern, but what we will surely do in this case is add new tests for the new formatter, and keep these tests with a previous compatibility mode.
I have heard some push back from actually adding or removing newlines as well, so it's not something we might want to do immediately anyway.

**Comment by MikaelMayer** [comment]
> Does this formatter also work for generated AST nodes, that may not have associated tokens? Or would you then have to pretty print, parse and then format?

No it does not, but for that, one can simply use the printer. This formatter guarantees that the program is reprinted as-this, module space changes, but all tokens kept.
However, I do envision to transform the pretty printer to emit a token list instead of a string, so that we can use this formatter to format this list of tokens. In the future.

> I think we discussed this before, but without too much context, my expectation of a formatter would be that it's an enhanced version of a printer which also prints trivia/tokens attached to the AST nodes, so it's able to work both with AST nodes that have trivia (those that are parsed from source), and those that don't (generated as part of refactorings).

Yes, that's a usual and reasonable expectation from a formatter, also sometimes called "unparser" for obvious reasons. The problem are, any such unparser needs the parser itself to ensure no parsing information is lost (.e.g  regarding grouping variable declarations in class constants, the order of modules or top-level declarations, what did the user write and what was inferred or auto-completed...) and find ways to reprint the program appropriately.
I originally started this formatter because it has an interesting idea, that is, it would not need to work at the tree level, but only at the tokens level. Great ! That worked well at the beginning but the code was not pretty enough according to our standards - so much of Dafny customs that simply couldn't be handled if we only worked at the token level.
So I added a traversal of the tree so that we could configure token indentation at every level. It turned out to be a much bigger effort than what I anticipated, but it has the following benefits:
- Even if we add a new construct in the language, the formatter will still work as-this, and indent expressions inside the new construct, provided it defines .PreResolveSubExpressions
- We formally prove that no token's val from the original program is lost. All tokens are reprinted. This formal guarantee makes it possible to use `dafny format` without the fear that the formatter might forget something or has an edge case that will go undetected for years.
- The changes it made to the parsing (dafny.atg) and the AST (OwnedTokens) are likely to be beneficial to any future attempt at making any other kind of formatter.

File: Source/DafnyCore/AST/DafnyAst.cs [hunk 23]
```diff
@@ -101,7 +103,25 @@ public class Program : INode {
...
     public IToken GetFirstTopLevelToken() {
-      return DefaultModuleDef.GetFirstTopLevelToken();
+      if (DefaultModule.RootToken.Next == null) {
+        return null;
+      }
+
+      var firstToken = DefaultModule.RootToken.Next;
+      var prevFile = "";
+      // We skip all included files
+      while (firstToken != null && firstToken.Next != null && firstToken.Next.Filename != DefaultModule.RootToken.Filename) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:123]: Because the first token assigned to `DefaultModule.RootToken` is curiously not necessarily the first token of the file being parsed, but tokens coming from other included files. Since we don't want to reprint the other included files, this is the pass that skips the included files.

File: Source/DafnyCore/AST/DafnyAst.cs [hunk 24]
```diff
@@ -927,11 +950,17 @@ public class BottomUpVisitor {
...
   public class TopDownVisitor<State> {
+    protected bool preResolve = false;
+
     public void Visit(Expression expr, State st) {
       Contract.Requires(expr != null);
       if (VisitOneExpr(expr, ref st)) {
-        // recursively visit all subexpressions and all substatements
-        expr.SubExpressions.Iter(e => Visit(e, st));
+        if (preResolve && expr is ConcreteSyntaxExpression concreteSyntaxExpression) {
+          concreteSyntaxExpression.PreResolveSubExpressions.Iter(e => Visit(e, st));
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:983]: >I feel the "two state" nature of our current AST, with its pre and post resolve state, is more complex than it needs to be. I'm hoping that at some point we can remove the ResolvedExpression and ResolvedStatement concepts from our AST.

+ 1

> How would you feel about cloning the AST after parsing, so you can use that instead of having to define and implement PreResolveSubExpressions ?
> Making a clone has a small performance penalty, but I expect us to make post-parsing clones anyways once we start adding caching to our pipeline, so that files which have not been changed but need to be re-resolved because their imports changed, don't have to be parsed again.

I would be all in so that `SubExpressions` is a single field instead of two. The problem is, as [@cpitclaudel  mentioned it](https://github.com/dafny-lang/dafny/pull/2955#discussion_r1010674449), that `.SubExpressions`'s specification is only specified in the comments to list sub expressions _after resolution_, not just after parsing. So there would be an inconsistency.
Maybe for the scope of another PR?

File: Source/DafnyCore/AST/Expressions.cs [hunk 25]
```diff
@@ -104,7 +105,10 @@ public abstract class Expression : INode {
         } else {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Expressions.cs:105]: I think that's perfectly acceptable to move RangeToken to INode. For the second part, I prefer that RangeToken is computed lazily, because it depends on sub-expression ranges, format tokens (I still need to migrate them to OwnedTokens) and OwnedTokens.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 18 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:148]: I thought that C# would be clever, but you're right, better be safe than sorry !

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 20 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:318]: > Hey, I do find this method hard to read. It doesn't give me an overview of what the end result looks like by reading the code. It reminds me of a hand written parser that switches on symbols to update a state, as opposed to a parser defined using a grammar.

Please refer to the tests. I added a comment in front of this method that say to refer to this test:
https://github.com/dafny-lang/dafny/blob/42ba60dd232fddd82b27df4afbaa6fd8c7bfc4e6/Source/DafnyPipeline.Test/Formatter.cs#L123

For the rest of your comment, I would have loved to do something much more formal and functional rather than low-level code, like in the papers you describe.
But first, I did not want to spend few years like for scalafmt's thesis, I wanted to move as quickly as possible while keeping configurability. It occurred to me that Dafny was not designed to make the intermediate representation as simple as possible, like in Scala. It's way more complex on the front-end, because it was designed with verification in mind.
Moreover, the Dafny AST maps not very well to the Dafny source code, contrary to other languages - so many low-level optimizations in the parser, and then in the resolver - I considered this token formatter as the best value*configurability/(dev time*cost) value, and I still consider it like that.
This is not to say that an alternative approach won't be possible in the future, but that would certainly take more time. I hope that my edits to the AST and INodes might enable such opportunities in the future !

File: Source/DafnyCore/DafnyCore.csproj [hunk 26]
```diff
@@ -23,6 +23,7 @@
   </PropertyGroup>
 
   <ItemGroup>
+      <PackageReference Include="dafny.msbuild" Version="1.0.0" />
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/DafnyCore.csproj:28]: > I'm concerned that later changes/additions to the grammar might introduce missing/incorrect ownedTokens

In this PR, `ownedTokens` is under-specified, meaning not every token is assigned to a node, although I did my best so that it will be the case.

File: Source/DafnyCore/AST/Formatting.dfy [hunk 27]
```diff
@@ -0,0 +1,176 @@
...
+}
+module {:extern "Microsoft"} {:options "-functionSyntax:4"}  Microsoft {
+  module {:extern "Dafny"} Dafny {
+    module {:extern "Formatting"} Formatting {
+      import opened MicrosoftDafny
+      import opened System
+
+      const {:extern "System", "String.Empty"} CsStringEmpty: CsString;
+
+      trait IIndentationFormatter {
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:109]: Could you add documentation for all of these input and output values? I'm not sure how to read `printSourceReindent` otherwise.

I also don't understand the high level meaning of `GetIndentation`

File: Source/DafnyCore/AST/Formatting.dfy [hunk 28]
```diff
@@ -0,0 +1,176 @@
...
+                    && token == allTokens[i]
+          invariant forall t <- allTokens[0..i] :: sb.built.Contains(t.val)
+        {
+          if(token.Next == null) {
+            firstToken.TokenNextIsNullImpliesLastToken(token, i);
+          } else {
+            firstToken.TokenNextIsIPlus1(token, i);
+          }
+          IsAllocated(allTokens[0..i]);
+          var indentationBefore, indentationBeforeSet,
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:155]: Some return values from `GetIndentation` are unprocessed and immediately passed back to `Reindent`. That seems like an API design smell. Why do you need to first call `GetIndentation` and then call `Reindent`, can't it be a single call?

File: Source/DafnyCore/AST/Formatting.dfy [hunk 29]
```diff
@@ -0,0 +1,176 @@
...
+              lastIndentation, lastIndentationSet,
+              indentationAfter, indentationAfterSet := reindent.GetIndentation(token, currentIndent);
+
+          var newLeadingTrivia := reindent.Reindent(token, false, leadingTriviaWasPreceededByNewline, indentationBefore, lastIndentation);
+          var newTrailingTrivia := reindent.Reindent(token, true, false, indentationAfter, indentationAfter);
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:160]: What is there to reindent for trailing trivia? How can you reindent something that's not at the start of the line? Can trailing trivia be at the start of a line?

File: Source/DafnyCore/AST/Formatting.dfy [hunk 30]
```diff
@@ -0,0 +1,176 @@
...
+            firstToken.TokenNextIsNullImpliesLastToken(token, i);
+          } else {
+            firstToken.TokenNextIsIPlus1(token, i);
+          }
+          IsAllocated(allTokens[0..i]);
+          var indentationBefore, indentationBeforeSet,
+              lastIndentation, lastIndentationSet,
+              indentationAfter, indentationAfterSet := reindent.GetIndentation(token, currentIndent);
+
+          var newLeadingTrivia := reindent.Reindent(token, false, leadingTriviaWasPreceededByNewline, indentationBefore, lastIndentation);
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:159]: Consider having a method `ReindentLeadingTrivia` and `ReindentTrailingTrivia` instead of `Reindent(..., trailingTrivia: bool, ...)`

**Comment by keyboardDrummer** [comment]
>  I originally started this formatter because it has an interesting idea, that is, it would not need to work at the tree level, but only at the tokens level. Great ! That worked well at the beginning but the code was not pretty enough according to our standards - so much of Dafny customs that simply couldn't be handled if we only worked at the token level. So I added a traversal of the tree so that we could configure token indentation at every level. 

Could you document the original idea and its limitations? Maybe the formatter can have a little architecture section that explains its design?

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 20 above)
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:310]: Thanks for the explanation, makes sense.

I do want to say though that any significant code contributions involves multiple contributors, both through the code review process and in the code maintenance that follows. I think any large contribution where there are design choices warrants design discussion, and I would have preferred it if this work had involved more of that.

File: Source/DafnyCore/AST/DafnyAst.cs [hunk 31]
```diff
@@ -31,6 +33,15 @@ public interface INode {
...
     IEnumerable<INode> Children { get; }
+
+    /// <summary>
+    /// These children should match what was parsed before the resolution phase.
+    /// That way, gathering all OwnedTokens of all recursive ConcreteChildren should result in a comprehensive
+    /// coverage of the original program
+    /// </summary>
+    IEnumerable<INode> ConcreteChildren { get; }
+
+    List<IToken> OwnedTokens { get; }
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:44]: > Why is that?
> What does TopLevel mean in the name GetFirstTopLevelToken ? Have you considered emphasising that it's getting the first token that's actually in the file, like with GetFirstTokenInsideFile ?

This method was originally implemented on modules to report errors on the module itself when tokens were not available (i.e. a crash). Then, this method was implemented at the program level because there could be crashes without modules.
I added a comment to `GetFirstTopLevelToken` to explain what it extracts in the case of a file.

File: Source/DafnyCore/AST/Expressions.cs [hunk 32]
```diff
@@ -117,6 +121,22 @@ public abstract class Expression : INode {
             }
           }
 
+
+          foreach (var token in Enumerable.Concat(FormatTokens ?? Enumerable.Empty<IToken>(), OwnedTokens)) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Expressions.cs:125]: Yes I think so ! That will require some more work though that I want to make out of scope of this PR.

File: Source/DafnyCore/AST/DafnyAst.cs [hunk 33]
```diff
@@ -31,6 +33,15 @@ public interface INode {
     /// losing source location information, so those transformed nodes should not be returned by this property.
     /// </summary>
     IEnumerable<INode> Children { get; }
+
+    /// <summary>
+    /// These children should match what was parsed before the resolution phase.
+    /// That way, gathering all OwnedTokens of all recursive ConcreteChildren should result in a comprehensive
+    /// coverage of the original program
+    /// </summary>
+    IEnumerable<INode> ConcreteChildren { get; }
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:42]: I feel good about this idea ! However, that might require some architecturing outside of the scope of this PR, because the language server does not provide the document after parsing, only after full resolution.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 28 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:155]: I would answer that it's not an API, these are just internal calls, which, if we determine it's best for maintenance, could always be refactored later without changing Dafny's API. Whether these calls happen in Dafny or C# should not make a difference.
My preference goes towards putting as much code in Dafny as possible, and have the external APIs do one simple thing at a time, so unless you have a strong feeling about that and tell me more about this "smell", I prefer to keep these three calls in Dafny.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 29 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:160]: Trailing trivia can have newlines. Trailing trivia stops after one blank newline.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 30 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:159]: I considered it. I don't personally like it better than a single method, but since you asked, I implemented it.

File: Source/DafnyCore/AST/Tokens.cs [hunk 34]
```diff
@@ -145,6 +169,10 @@ public class RangeToken : TokenWrapper {
   public RangeToken(IToken startTok, IToken endTok) : base(startTok) {
     this.endTok = endTok;
   }
+
+  public override IToken WithVal(string newVal) {
+    return this;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Tokens.cs:174]: > How is this a valid implementation of WithVal?

No one is supposed to change the "val" of a RangeToken. Would you prefer me to throw an exception? I hate exceptions if they are not necessary, because otherwise, things are covered with tests anyway.

This comes from the bad design that we are using tokens both for tokens, for positions AND for ranges.

File: Source/DafnyCore/AST/TopLevelDeclarations.cs [hunk 35]
```diff
@@ -328,6 +328,7 @@ abstract public class ModuleDecl : TopLevelDecl {
     return Signature;
   }
   public int Height;
+  public Token RootToken = new Token();
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:331]: A list is a special kind of a tree, isn't it?
I will not name it FirstToken because the first token is the first token being parsed, whereas this one is a "dummy" one to which the FirstToken will attach later.
 The metaphor is it's the root from which the FirstToken and any other tokens will grow on
I'm not sure about HeadToken. If they were presented to me before I had even designed this, I would still prefer RootToken.

File: Source/DafnyCore/AST/TopLevelDeclarations.cs [hunk 36]
```diff
@@ -365,12 +366,16 @@ public class LiteralModuleDecl : ModuleDecl {
   }
 
   public override IEnumerable<INode> Children => new[] { ModuleDef };
+  public override IEnumerable<INode> ConcreteChildren => Children;
 
   public LiteralModuleDecl(ModuleDefinition module, ModuleDefinition parent)
     : base(module.tok, module.Name, parent, false, false) {
     ModuleDef = module;
     StartToken = module.StartToken;
+    EndToken = module.EndToken;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:375]: To ensure they are not null. Nullness causes some problems there and there for these kinds of token. Again, I'm not saying this is ideal, it's just an empirical fix.

File: Source/DafnyCore/DafnyOptions.cs [hunk 37]
```diff
@@ -283,6 +285,14 @@ public enum IncludesModes {
             return true;
           }
 
+        case "check": {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/DafnyOptions.cs:288]: Yes it does. It's set up before the arguments are processed.

File: Source/DafnyLanguageServer/Handlers/DafnyFormatter.cs [hunk 38]
```diff
@@ -0,0 +1,51 @@
...
+
+  protected override DocumentFormattingRegistrationOptions CreateRegistrationOptions(DocumentFormattingCapability capability,
+    ClientCapabilities clientCapabilities) {
+    return new DocumentFormattingRegistrationOptions() {
+      DocumentSelector = DocumentSelector.ForLanguage("dafny")
+    };
+  }
+
+  public override async Task<TextEditContainer?> Handle(DocumentFormattingParams request, CancellationToken cancellationToken) {
+    var lastDocument = await documents.GetLastDocumentAsync(request.TextDocument.Uri);
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyLanguageServer/Handlers/DafnyFormatter.cs:29]: But I can't use `GetResolvedDocumentAsync` because it does not return the resolved program. It only returns an `IdeState`.

[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyLanguageServer/Handlers/DafnyFormatter.cs:29]: Would you mind moving the formatting call to `Compilation.cs` by introducing something like `Task<string> GetFormattedDocument { get; }` there and re-exposing that in `DocumentManager` so it can be used in `DafnyFormatter.cs`?

I'm hoping to make DafnyLanguageServer agnostic to Dafny, and moving `Compilation.cs` to `DafnyCore`, so it can replace some of the logic in DafnyMain, like `BoogiePipelineWithRerun`.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 39]
```diff
@@ -6,6 +6,45 @@
...
+ * 1. Convert tokens to a double linked list so that we can traverse them from the beginning to the end and store the first token in the program (Scanner.frame, and all AST nodes)
+ * 2. Traverse the program on pre-resolved nodes, and decide on the indentation of each token when it's associated to a declaration, a node, a statement, etc.
+ * 3. Reprint the tokens in their original order by replacing their leading and trailing whitespace by their correctly indented counterpart
+ *
+ * Step 3. has been entirely written in Dafny, and offers the interesting guarantee that the final reprinted program will contain all the "val" of every token reachable from the first token provided in input.
+ *
+ * ## What is the indentation of a "token"?
+ *
+ * This formatter considers that each token has to be associated with 3 types of indentation.
+ * 1. The indentation about things that are before this token
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:22]: Are there things other than tokens?

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 40]
```diff
@@ -6,6 +6,45 @@
 
 namespace Microsoft.Dafny;
 
+/** The first Dafny formatter
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:9]: Could you also describe from a UX perspective what this formatter does? Does it ignore existing indentation?

File: Source/DafnyCore/AST/DafnyAst.cs (hunk 33 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/DafnyAst.cs:42]: I think it is in scope, because this PR adds code because that feature is missing. 

Also, I also don't think we should expose the Dafny `Program` to the language server handlers, so we need a formatting specific change to `Compilation`, like what I described in `https://github.com/dafny-lang/dafny/pull/2399#discussion_r1022771435`.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 28 above)
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/Formatting.dfy]: > I would answer that it's not an API, these are just internal calls

I meant the internal API of the interface `IIndentationFormatter`. Does API imply external? Is `interface signature` a better term?

> Whether these calls happen in Dafny or C# should not make a difference.

I agree but if you have an interface then it's a bad API design if one method needs to be fed the output from another one. It's like:

```
interface X {
  SomeType StepOne()
  Result StepTwo(SomeType value);
}
```

versus

```
interface X {
  Result Compute();
}
```

File: Source/DafnyCore/AST/Formatting.dfy (hunk 30 above)
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/Formatting.dfy]: I hope to add some mechanisms to our codebase for limiting file and method size, but in the mean time thanks for dealing with my subjective comments :)

File: Source/DafnyCore/AST/Tokens.cs (hunk 34 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/Tokens.cs:174]: > Yes this clas is used by the Parser (see Dafny.atg)

Seems like only the `Fill` method is used. Could you delete `DetectNewline` ?

Also, could you add documentation to `PreprocessorHelper`?

[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/Tokens.cs:174]: > This comes from the bad design that we are using tokens both for tokens, for positions AND for ranges.

Happy to hear you say that ^^ I am boggled by our overloaded use of `Token`

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 41]
```diff
@@ -6,6 +6,45 @@
...
+ * Step 3. has been entirely written in Dafny, and offers the interesting guarantee that the final reprinted program will contain all the "val" of every token reachable from the first token provided in input.
+ *
+ * ## What is the indentation of a "token"?
+ *
+ * This formatter considers that each token has to be associated with 3 types of indentation.
+ * 1. The indentation about things that are before this token
+ * 2. The indentation of this token itself if it starts a new line
+ * 3. The indentation of things that are after this token.
+ * 
+ * Because the token printer will traverse the tokens in order, the indentation 1. is used only for the trivia associated to the token in the leading whitespace of that token, like `/* Comment about X * /` in the following example, which is in the leading trivia of `const`
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:26]: If a developer looks at the definition of Dafny.IToken or Dafny.Token, they will see that a token not only contains the `val`, but also the position, the filename, pointers to other tokens, and the trivia around it. So I think it shouldn't be a problem.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 42]
```diff
@@ -6,6 +6,45 @@
 
 namespace Microsoft.Dafny;
 
+/** The first Dafny formatter
+ * 
+ * We want the guarantee that the reprinted program should be the same as the previous one, modulo whitespace.
+ * Our approach in this formatter consists of three phases:
+ * 1. Convert tokens to a double linked list so that we can traverse them from the beginning to the end and store the first token in the program (Scanner.frame, and all AST nodes)
+ * 2. Traverse the program on pre-resolved nodes, and decide on the indentation of each token when it's associated to a declaration, a node, a statement, etc.
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:14]: > Seems like there's a single pass over the AST that modifies the posToIndentBefore, posToIndentLineBefore and posToIndentAfter maps, and then a loop through all tokens which uses these maps to reindent them.

Yes, good summary.

> What would be the difference with something that looks more like a printer, where the iteration over the AST immediately produces the output string?

I do consider to make a token-based printer in the future so that we can deal with automated newlines.

The biggest difference with printers is that you will not be able to guarantee that tokens are printed the same. So you risk producing incorrect output if your code is insufficiently tested. You might forget trivia, comments, existing alignments, etc. A printer might degroup cases that were degroupped during parsing. Moreover, if you add a new construct to the language, you'll have to add a new printer expression for that, otherwise you will simply break the formatter. Token-based formatting does not suffer this. It offers a default formatting even for expressions that it does not know yet, and guarantees that your original file is still there, modulo some whitespace reformatting.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 40 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:9]: I think I did a preliminary job explaining the "interesting cases" in the PR description, including cases where it does take into account existing indentations to keep alignment.
https://github.com/dafny-lang/dafny/pull/2399
Let me know if you have questions about that.

File: Source/DafnyCore/AST/DafnyAst.cs [hunk 43]
```diff
@@ -31,6 +33,18 @@ public interface INode {
...
+
+    /// <summary>
+    /// These tokens are "owned" by the node, meaning 
+    /// </summary>
+    IEnumerable<IToken> OwnedTokens { get; }
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:47]: I'll do this refactoring.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 42 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:14]: Okay. I think having this two phase process of having the AST produce formatting hints and then printing all existing tokens using those seems good then, given that it gives this 'no text is lost' guarantee and the ability to work with unknown pieces of grammar.

I do not yet understand the structure of the formatting hints though. Suppose tokens were just lexical tokens, then I would think the formatting hints would be additions and removals of whitespace/newline tokens at specific points in the list of all tokens.

Also, why are trivia-tokens attached to non-trivia tokens?

[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:14]: > I do not yet understand the structure of the formatting hints though. Suppose tokens were just lexical tokens, then I would think the formatting hints would be additions and removals of whitespace/newline tokens at specific indices in the list of all tokens.

That would be true if comments were themselves tokens, and trivia was themselves tokens, but we haven't implemented it that way.

> Also, why are trivia-tokens attached to non-trivia tokens?

This was a decision taken in a previous PR that attached the trivia to every token. (trivia themselves are not tokens). That way, tokens represent something concrete, whereas trivia represents something that, besides formatting, is not use elsewhere.

File: Source/DafnyCore/AST/DafnyAst.cs (hunk 33 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:42]: > Also, aren't changes that allow us to write nicer PR code always in scope?

I wholeheartedly agree. But by architectural decisions, I really mean answering two not trivial questions:
- Do we really want to have SubExpressions to contain non-resolved sub expressions after parsing, and resolved sub-expressions after resolution? These are two different set of expressions. A developer might be surprised to see Dafny recurse in one part of the tree when they expected the other part (sometimes they are mutually exclusive, like for `ConcreteSyntaxExpression`)
- The Language Server wants to access both pre-resolved expressions (for getting all the 1-to-1 display in the program) and sometimes post-resolved expressions (for having the correct types). We already have work-arounds in place to traverse the tree of expressions pre-resolution in the language server. Don't we want this traversal directly in the tree? Do we have evidence that it can work on two different programs independently?
- Don't we want to instead put every expression into a ConcreteSyntaxExpression?
- Ideally, DafnyLanguageServer depends on DafnyCore, not the way around. So the change for the DafnyLanguageServer should follow the formatter, not constrain it. It would make perfect sense to investigate how to split the resolved document in two phases in a subsequent PR and at the same time merge the two notions of children, rather than trying to merge two different notions of children and changing the language server right now in this PR.

If the answer was obvious, then I would do the change right away. It is not obvious to me and will lead to many discussions which I think will vastly delay the merging of this PR. I'm happy to postpone it indefinitely until we resolve these issues, but not everyone might be happy about that.

If you are worried about exposing a new API to remove it later, then we might want to mark the field PreResolveChildren as "internal", [even if it is in an interface](https://stackoverflow.com/a/368482/1287856).

File: Source/DafnyCore/AST/Formatting.dfy (hunk 28 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy]: > > I would answer that it's not an API, these are just internal calls
> 
> I meant the internal API of the interface `IIndentationFormatter`. Does API imply external?

Yes it does. It's [Application Programming Interface](https://en.wikipedia.org/wiki/API), i.e. two executable speaking to each other. 

> Is `interface signature` a better term?

Yes it is in your case.

> > Whether these calls happen in Dafny or C# should not make a difference.
> 
> I agree but if you have an interface then it's a clumsy API if one method needs to be fed the output from another one. It's like:
> 
> ```
> interface X {
>   SomeType StepOne()
>   Result StepTwo(SomeType value);
> }
> ```
> 
> versus
> 
> ```
> interface X {
>   Result Compute();
> }
> ```

Your example is too caricature for me but makes me understand how you feel.
My inner value was that I want to write as much code in Dafny as possible, and summarizing it with only one seemed to contradicts my goal.

But I found a workaround ! I gathered the four method calls into a single one in the Dafny trait, that the C# interface inherited, so that that code is in Dafny as well.

File: Source/DafnyCore/AST/Tokens.cs (hunk 34 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Tokens.cs:174]: > Seems like only the Fill method is used. Could you delete DetectNewline ?

Knowing that DetectNewline is defined and used in this PR?

> Also, could you add documentation to PreprocessorHelper?
Done

> Happy to hear you say that ^^ I am boggled by our overloaded use of Token

Not to mention... include tokens?! refinement tokens?! We should have kept tokens minimal and created a Provenance class that contains a regular token, a possible chain of module names, a possible chain of included files, etc. But the reason why we have everything in tokens is that it's the only formal information we passed to Boogie so far. This could change in the future because we have proof obligation descriptions which can be used to be return better error messages. They could be built using provenance.

File: Source/DafnyCore/AST/DafnyAst.cs (hunk 33 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/DafnyAst.cs:42]: > Do we really want to have SubExpressions to contain non-resolved sub expressions after parsing, and resolved sub-expressions after resolution?

I think so, since this means the AST after resolution behaves as if it only has its resolved state, and no longer the pre-resolved state. I believe this 'single state AST' is what we want to work towards. Even if the internal state of the AST nodes can still be 'two-state', it's already nice if the APIs behave single-state.

> The Language Server wants to access both pre-resolved expressions (for getting all the 1-to-1 display in the program) and sometimes post-resolved expressions (for having the correct types). 

I think that's easy to achieve by cloning the AST after parsing, so I don't feel that needs to influence any design.

> Don't we want to instead put every expression into a ConcreteSyntaxExpression?

I'm hoping we can get rid of `ConcreteSyntaxExpression`

> It would make perfect sense to investigate how to split the resolved document in two phases in a subsequent PR and at the same time merge the two notions of children, rather than trying to merge two different notions of children and changing the language server right now in this PR.

My guess is that doing it now results in significantly fewer changed lines of code in this PR. Exposing the post-parsing document in the language server seems simple to me, and a single Children that supports both pre and post-resolve seems smaller than having two separate ones.

[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs:42]: > > Do we really want to have SubExpressions to contain non-resolved sub expressions after parsing, and resolved sub-expressions after resolution?
> 
> I think so, since this means the AST after resolution behaves as if it only has its resolved state, and no longer the pre-resolved state. I believe this 'single state AST' is what we want to work towards. Even if the internal state of the AST nodes can still be 'two-state', it's already nice if the APIs behave single-state.
> 
> > The Language Server wants to access both pre-resolved expressions (for getting all the 1-to-1 display in the program) and sometimes post-resolved expressions (for having the correct types).
> 
> I think that's easy to achieve by cloning the AST after parsing, so I don't feel that needs to influence any design.
> I'm hoping we can get rid of `ConcreteSyntaxExpression`

Cloning the AST after parsing has its own pros and cons. I'm inclined to actually merge the two notions of expressions and do what you suggest, but please consider the following:

Pros:
* Faster time to activate the formatter in the IDE, no need to resolve the syntax tree.

Cons:
* It creates an AST that is guaranteed to not have any typing or name resolution information. If, at some point, the printer/formatter wanted to access the resolution data (e.g. types, name resolution) to format things in an enhanced way (e.g. making variable types at declaration explicit, synchronizing formal types in the comments

> > It would make perfect sense to investigate how to split the resolved document in two phases in a subsequent PR and at the same time merge the two notions of children, rather than trying to merge two different notions of children and changing the language server right now in this PR.
> 
> My guess is that doing it now results in significantly fewer changed lines of code in this PR. Exposing the post-parsing document in the language server seems simple to me, and a single Children that supports both pre and post-resolve seems smaller than having two separate ones.

Ok, if you are ready to review this extra change, then I can do it.
For now, let's focus on making https://github.com/dafny-lang/dafny/pull/3070 acceptable.

[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/DafnyAst.cs]: That's an excellent idea.

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 44]
```diff
@@ -0,0 +1,2842 @@
...
+namespace DafnyPipeline.Test {
+
+  // Simple test cases (FormatterWorksFor with only one argument)
+  // consist of removing all the indentation from the program,
+  // adding it through the formatter, and checking if we obtain the initial result
+  //
+  // Advanced test cases consist of passing the program and its expected result after indentation
+  //
+  // Every test is performed with all three newline styles
+  // Every formatter program is formatted again to verify that it stays the same.
```
Comment (keyboardDrummer) [inline Source/DafnyPipeline.Test/Formatter.cs:23]: `Every formatted program`

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 45]
```diff
@@ -0,0 +1,2842 @@
...
+          return;
+        }
+        ProcessOwnedTokens(node);
+        foreach (var child in node.ConcreteChildren) {
+          ProcessNode(child);
+        }
+      }
+      ProcessNode(dafnyProgram);
+
+      // Step 3: Report any token that was not removed
```
Comment (keyboardDrummer) [inline Source/DafnyPipeline.Test/Formatter.cs:2792]: Step 2 is missing

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 46]
```diff
@@ -0,0 +1,2842 @@
...
+        Assert.Equal(reprinted, reprinted2);
+      }
+    }
+
+    private void EnsureEveryTokenIsOwned(string programNotIndented, Program dafnyProgram) {
+      var firstToken = dafnyProgram.GetFirstTopLevelToken();
+      if (firstToken == null) {
+        return;
+      }
+      // Step 1: Collect all the tokens of the program
```
Comment (keyboardDrummer) [inline Source/DafnyPipeline.Test/Formatter.cs:2760]: Consider extracting step 1 into a method

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 47]
```diff
@@ -0,0 +1,2842 @@
...
+          var error = reporter.AllMessages[ErrorLevel.Error][0];
+          Assert.False(true, $"{error.message}: line {error.token.line} col {error.token.col}");
+        }
+
+        var firstToken = dafnyProgram.GetFirstTopLevelToken();
+        if (firstToken == null && !expectNoToken) {
+          Assert.False(true, "Did not find a first token");
+        }
+
+        //TODO(Mikael) Make sure every token is owned.
```
Comment (keyboardDrummer) [inline Source/DafnyPipeline.Test/Formatter.cs:2730]: TODO

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 48]
```diff
@@ -0,0 +1,2393 @@
...
+    return Reindent(token, false, precededByNewline, indentationBefore, lastIndentation);
+  }
+
+  public string ReindentTrailingTrivia(IToken token, bool precededByNewline,
+    string indentationBefore, string lastIndentation) {
+    return Reindent(token, true, precededByNewline, indentationBefore, lastIndentation);
+  }
+
+  #region Override for implementing IIndentationFormatter
+  /// Given a space around a token (input),
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:2167]: Could you fix the grammar in this comment and add examples of the trailingTrivia and !trailingTrivia case?

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 49]
```diff
@@ -0,0 +1,2393 @@
...
+  /// * precededByNewline means it's a leading space that was preceded by a newline
+  /// or a trailing (isLeadingSpace==false)
+  /// changes the indentation so that on the lines before, it uses indentationBefore,
+  /// and on the last line it uses lastIndentation
+  /// If it's a trailing space, no indentation is added after the last \n because it would be handled by the next leading space.
+  /// 
+  /// This function implements IIndentationFormatter.Reindent and is called by Formatter.dfy
+  public string Reindent(IToken token, bool trailingTrivia, bool precededByNewline, string indentationBefore, string lastIndentation) {
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:2175]: Does this return a string that contains the value of the token and its leading and trailing trivia?

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 42 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:14]: Would it be possible to replace 

```c#
  private readonly Dictionary<int, int> posToIndentBefore = new();
  private readonly Dictionary<int, int> posToIndentLineBefore = new();
  private readonly Dictionary<int, int> posToIndentAfter = new();
```

with

```c#
private readonly Dictionary<IToken, (string leadingTrivia, string trailingTrivia)> 
  triviaReplacements = new();
```

To me that seems to be the minimal data needed to allow you to ignore tokens for which no formatting is defined, and guarantee that all semantic tokens end up in the formatted output.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 50]
```diff
@@ -0,0 +1,2393 @@
...
+  }
+
+  protected override bool VisitOneStmt(Statement stmt, ref int unusedIndent) {
+    if (stmt == null) {
+      return false;
+    }
+    var firstToken = stmt.StartToken;
+    var indent = GetIndentBefore(firstToken);
+    // Every function returns if traverse needs to occur (true) or if it already happened (false) 
+    switch (stmt) {
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:165]: This file is very large, making it harder to comment on in GitHub and slowing than my IDE. Have you considered moving some of these methods to the AST nodes that they apply to?

You might even have interface `ICanFormat` with a method `SetIndent(IndentationFormatter formatter` that these AST nodes can implement, so you don't need a switch like this.

File: Source/DafnyCore/AST/Formatting.dfy [hunk 51]
```diff
@@ -0,0 +1,206 @@
+/// Microsoft.Dafny.Formatting.ReindentProgramFromFirstToken() takes
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:1]: > Hey, I would love to have .dfy files in our repository, but would it be possible to introduce them in a separate PR?

New PR: #3414

File: Source/DafnyCore/AST/Node.cs [hunk 52]
```diff
@@ -86,8 +108,19 @@ public abstract class Node : INode {
         return OwnedTokensCache;
       }
 
+      var childrenFiltered = GetConcreteChildren().ToList();
+
+      // DEBUG: Detect duplicate children start tokens.
+      for (var i = 0; i < childrenFiltered.Count - 1; i++) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Node.cs:114]: Good idea. Actually, I prefer to remove this code for now, because it allowed me to detect issues in the line that convert children to a dictionary, but these issues are all fixed for now.

File: Source/DafnyCore/AST/PreprocessorHelper.cs [hunk 53]
```diff
@@ -0,0 +1,196 @@
...
+/// 
+/// }
+/// ```
+/// 
+/// However, at this moment, there is no way to tell Dafny which preprocessing variables
+/// are defined, so only all other blocks than "else" are replaced by empty newlines
+/// Note that, because this process replaces newlines, this version of PreprocessorHelper
+/// recover existing newlines to ensure that, if there is no pre-processing directives,
+/// the program string is exactly the same as the original one.
+public static class PreprocessorHelper {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/PreprocessorHelper.cs:35]: Since it's already in the Dafny namespace, I renamed it to `SourcePreprocessor`, all right?

File: Source/DafnyLanguageServer/Handlers/LanguageServerExtensions.cs [hunk 54]
```diff
@@ -22,6 +22,7 @@ public static class LanguageServerExtensions {
         .WithHandler<DafnySignatureHelpHandler>()
         .WithHandler<DafnyCounterExampleHandler>()
         .WithHandler<DafnyCodeActionHandler>()
+        .WithHandler<DafnyFormatter>()
```
Comment (davidcok) [inline Source/DafnyLanguageServer/Handlers/LanguageServerExtensions.cs:25]: I suggest DafnyFormatter -> DafnyFormatterHandler

File: Test/dafny0/formattingcheckfails.dfy.expect [hunk 55]
```diff
@@ -0,0 +1 @@
+Should contain failing message
```
Comment (davidcok) [inline Test/dafny0/formattingcheckfails.dfy.expect:1]: Is this a placeholder for the real result?

File: docs/DafnyRef/UserGuide.md [hunk 56]
```diff
@@ -142,7 +142,7 @@ The command-line also expects the following:
 working directory. A command-line argument not matching a known option is considered a filepath, and likely one
 with an unsupported suffix, provoking an error message.
 - Files containing dafny code must have a `.dfy` suffix.
-- There must be at least one `.dfy` file.
+- There must be at least one `.dfy` file (except in the case of `dafny format`, see the [Dafny format section](#sec-formatting))
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:145]: I strongly prefer that dafny format not be an exception. The argument could be a directory, or an option like --repo. But an empty argument list is often an accident (e.g. dafny format *.dy), and this one would start a lot of work that might modify files.

File: docs/DafnyRef/UserGuide.md [hunk 57]
```diff
@@ -365,7 +365,18 @@ The command emits exit codes of
...
-This command is not yet released, but will be a command that formats source code to a consistent style.
+Dafny supports a formatter, which for now only changes the indentation of every line in a Dafny file, so that it conforms
+to the idiomatic Dafny code formatting style.
+For the formatter to work, the file should be parsed correctly by Dafny.
+
+There are four ways to use the formatter:
+
+* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments.
+* `dafny format --print:- file1.dfy file2.dfy ...` format each file but instead of writing files, output their formatted content in stdout
+* `dafny format` Look up for all the Dafny files recursively in the current repository and format them.
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:376]: No -- being in a repo is a special case. I suggest the arguments be files or directories, and use something 
like --repo if one really needs to format the repo (without having to write the directory for it)

**Review by davidcok — CHANGES_REQUESTED** [review]
Mostly just commented on documentation material, as I don't have enough context to critique the code beyond what Remy has already done.

File: Source/DafnyCore/AST/PreprocessorHelper.cs [hunk 58]
```diff
@@ -0,0 +1,196 @@
...
+        sb.Append(newline);
+      } else {
+        sb.Append(newline); // ignore the line
+      }
+    }
+
+    return sb.ToString();
+  }
+
+  public static string DetectNewline(string filename) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/PreprocessorHelper.cs:168]: Renamed to `GetNewlinesStyle` and added a comment.
I don't think I want to change the filename to `TextReader` because
* the `TextReader` resource I'm creating (a `StreamReader`) can be disposed at the end of the function, it's an implementation detail (otherwise, the caller would have to take care of this disposal),
* I'm using `reader.EndOfStream` which is not available on `TextReader`
* I would advocate to make things reusable on a case-by-case basis for internal functions such as this one. I am not marking it as internal because other projects might want to depend on it, for example plugins.

File: Source/DafnyCore/AST/PreprocessorHelper.cs [hunk 59]
```diff
@@ -0,0 +1,196 @@
...
+    Contract.Requires(stream != null);
+    Contract.Requires(cce.NonNullElements(defines));
+    Contract.Ensures(Contract.Result<string>() != null);
+    StreamReader /*!*/
+      reader = new StreamReader(stream);
+    var o = stream.CanSeek;
+    return Fill(reader, defines, newline);
+  }
+
+  public static string Fill(TextReader reader, List<string> /*!*/ defines, string newline) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/PreprocessorHelper.cs:69]: All this file was taken from Boogie's original preprocessor helper, but I'll continue the renaming anyway because I think we don't need to rely on our previous dependency.

File: Source/DafnyCore/AST/Tokens.cs [hunk 60]
```diff
@@ -180,10 +201,20 @@ public class BoogieRangeToken : TokenWrapper {
   // Used for range reporting
   public override string val => new string(' ', endTok.pos + endTok.val.Length - pos);
 
+  // If we don't ensure that the endToken is after the start token,
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Tokens.cs:204]: I changed the val declaration instead to ensure it's always of `length >= 1` using `Math.Max()`. I still cannot guarantee there is no construct where endTok is never before startTok, I actually have seen in one of your PR a case of that, so we need to ensure this function does not crash.

File: Source/DafnyCore/AST/TopLevelDeclarations.cs [hunk 61]
```diff
@@ -932,18 +938,34 @@ public class ModuleDefinition : INamedRegion, IDeclarationOrUsage, IAttributeBea
   }
 
   public IToken GetFirstTopLevelToken() {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:940]: > I wanted to understand RootToken better, but Rider says it's never assigned except its Filename property. What am I missing?

It's actually assigned to "FirstToken" in one of your search results, and FirstToken will modify its "Next" to point to the first true token of the program.

File: Source/DafnyCore/Options/ICommandSpec.cs [hunk 62]
```diff
@@ -16,6 +16,13 @@ public interface ICommandSpec {
   }
   public static Argument<IEnumerable<FileInfo>> FilesArgument { get; }
 
+  public static IEnumerable<Option> FormatOptions => new Option[] {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Options/ICommandSpec.cs:19]: Good idea. I splitted `CommonOptions` into a `ParserOptions` and `ResolverOptions`, so that I can reuse `ParserOptions`

File: Source/DafnyDriver/Commands/CommandRegistry.cs [hunk 63]
```diff
@@ -27,15 +27,14 @@ static class CommandRegistry {
   static CommandRegistry() {
     AddCommand(new ResolveCommand());
     AddCommand(new VerifyCommand());
-    AddCommand(new RunCommand());
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyDriver/Commands/CommandRegistry.cs:30]: ?! I don't know what happened there. Reverted. Thanks for spotting !

File: Source/DafnyLanguageServer/Workspace/Compilation.cs [hunk 64]
```diff
@@ -345,4 +345,28 @@ public class Compilation {
...
+    }
+
+    var firstToken = parsedDocument.Program.GetFirstTopLevelToken();
+    if (firstToken == null) {
+      return null;
+    }
+    var result = Formatting.__default.ReindentProgramFromFirstToken(firstToken,
+      IndentationFormatter.ForProgram(parsedDocument.Program));
+
+    // Could we return locally formatted elements instead?
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyLanguageServer/Workspace/Compilation.cs:366]: Done

https://github.com/dafny-lang/dafny/issues/3415

File: Source/DafnyLanguageServer/Workspace/Compilation.cs [hunk 65]
```diff
@@ -345,4 +345,28 @@ public class Compilation {
 
       return ResolvedDocument;
     }, TaskScheduler.Current).Unwrap();
+
+  public async Task<TextEditContainer?> GetTextEditToFormatCode() {
+    // TODO when available, use the parsed document rather than the resolved document
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyLanguageServer/Workspace/Compilation.cs:350]: > Could you turn this comment into a GitHub issue? "Increasing responsiveness of formatting by doing it before the resolution phase"
https://github.com/dafny-lang/dafny/issues/3416

File: Source/DafnyLanguageServer/Workspace/DocumentTextBuffer.cs [hunk 66]
```diff
@@ -17,6 +17,10 @@ public class DocumentTextBuffer {
     Buffer = buffer;
   }
 
+  // Impossible to cache this result, because this document is sometimes cloned with
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyLanguageServer/Workspace/DocumentTextBuffer.cs:20]: Looks like this field was previously in a record, which is now a class so it's no longer meaningful.
Previously, the Range was computed once but not updated if the text buffer changed, which led to crashes. So I ensure with a property that we always have the most up-to-date range.

I'll keep the field the same way but remove the comment.

File: Source/DafnyPipeline.Test/Formatter.cs [hunk 67]
```diff
@@ -0,0 +1,2842 @@
...
+using System.Diagnostics.Contracts;
+using System.IO;
+using System.Text.RegularExpressions;
+using JetBrains.Annotations;
+using Bpl = Microsoft.Boogie;
+using BplParser = Microsoft.Boogie.Parser;
+using Microsoft.Dafny;
+using Xunit;
+
+namespace DafnyPipeline.Test {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyPipeline.Test/Formatter.cs]: I splitted the 53K bytes file in 12 files of size less than 8K bytes

File: Source/DafnyPipeline.Test/Formatter.cs (hunk 47 above)
Comment (MikaelMayer) [reply Source/DafnyPipeline.Test/Formatter.cs]: > TODO

I reactivated the test and made it pass. Good that I had it. Actually, the node hierarchy was incomplete, top-level modules such as `module Outer.A { .. }` were not among the children of `Program`

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 48 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:2168]: I rephrased the entire comment to make it clearer, and added four examples.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 49 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:2176]: It only returns the considered trivia (leading or trailing). The examples will make it much clearer

**Comment by MikaelMayer** [comment]
> Would it be possible to replace 
```c#
  private readonly Dictionary<int, int> posToIndentBefore = new();
  private readonly Dictionary<int, int> posToIndentLineBefore = new();
  private readonly Dictionary<int, int> posToIndentAfter = new();
```
with
```c#
private readonly Dictionary<IToken, (string leadingTrivia, string trailingTrivia)> 
  triviaReplacements = new();
```
To me that seems to be the minimal data needed to allow you to ignore tokens for which no formatting is defined, and guarantee that all semantic tokens end up in the formatted output.

It might be possible, but I think it might make sense in an ulterior refactoring effort outside of this PR. Two remarks with your implementation vs. what happens currently
* As described in the PR's description, you need three trivia per tokens, one for the comments before it, one for the same line, one for the comments after it.
* Trivia contains comments which are not indented exactly the same (for example, /* */ comments are indented as a block no matter what), so that's why I minimize the information at this stage that we require to format to a single number. The method "Reindent" takes care of these numbers to compute the necessary indentations everywhere.
* I often have to compute alignments, and alignments can be determined after I determine what the future column a token will appear at. It's very handy that I manipulate integers instead of strings, because for any increase of indentation, it's an arithmetic operation, not a string concatenation.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 50 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:162]: That's a good idea. I liked it as well when it was centralized but it's also nice to delegate this to nodes themselves. Let me do it.

File: docs/DafnyRef/UserGuide.md [hunk 68]
```diff
@@ -365,7 +365,18 @@ The command emits exit codes of
...
+* `dafny format --check` with the same options as above. It will print a message
+  and a non-zero return code if at least one file is not the same as
+  its formatted version through `dafny format`
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: 1. I changed the "--print:-" option to a boolean "--print" which was very easy thanks to the new command line
2. dotnet format already does that, and our formatter is pretty stable. I would like to get more opinions on that @robin-aws @keyboardDrummer and @alex-chew  ? Vote 🅰️ if you want to enforce "." and 🅱️  if you think `dafny format` is enough
3. --check does not modify any file, and tells which files are not correctly formatted, like this.
```
$ ./Binaries/Dafny.exe format --check Source/DafnyCore/AST/Formatting.dfy
The file Formatting.dfy needs to be formatted
Error: 1 file need formatting.

$ ./Binaries/Dafny.exe format --check Source/DafnyCore/AST/Formatting.dfy
All files correctly formatted
```
Could we please keep diffs for an upcoming PR based on needs?

**Comment by keyboardDrummer** [comment]
> * As described in the PR's description, you need three trivia per tokens, one for the comments before it, one for the same line, one for the comments after it.

Do you mean three indentations?

Maybe you can just replace the three dictionaries with a single one that contains a `TokenIndentations` record? I think the many dictionaries seems messy to me. Also it seems `IToken` would be a better key than `int`.

Also, consider the names `above`, `inline` and `below` instead of `before`, `lineBefore` and `after`.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 69]
```diff
@@ -0,0 +1,1875 @@
...
+        }
+
+        if (!commentType.StartsWith("/*")) {
+          return match.Groups[0].Value;
+        }
+      }
+
+      if (commentType.Length == 0) {
+        //End of the string. Do we indent or not?
+        return precededByNewline && !trailingTrivia ? lastIndentation :
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:1695]: Could you simplify to `trailingTrivia ? "" : (precededByNewline ? lastIndentation : match.Groups[0].Value)`

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 70]
```diff
@@ -0,0 +1,1875 @@
...
+          return commentType;
+        }
+
+        if (!commentType.StartsWith("/*")) {
+          return match.Groups[0].Value;
+        }
+      }
+
+      if (commentType.Length == 0) {
+        //End of the string. Do we indent or not?
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/IndentationFormatter.cs:1694]: What do you mean, end of the string?

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 41 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:26]: `If a developer looks at the definition of` the point of a name is that it saves you from looking up the definition though!

File: Source/DafnyCore/AST/TopLevelDeclarations.cs (hunk 61 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:940]: > It's actually assigned to "FirstToken" in one of your search results, and FirstToken will modify its "Next" to point to the first true token of the program.

But where is RootToken itself assigned?

File: docs/DafnyRef/UserGuide.md (hunk 68 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply docs/DafnyRef/UserGuide.md]: I think `dafny format` should not try to format everything if no argument is passed, since that seems too implicit of a behavior. Regarding formatting a directory, can't a user use shell wildcards to pass many individual files to the CLI? Why do we need first class directory support?

I do think it should accept individual files or a project file (when it becomes available)

[the remark this answers is not in the document]
Comment (davidcok) [reply docs/DafnyRef/UserGuide.md]: To format all dafny files recursively under a directory would take combining with a `find` call. I think it better to have some options to recursively format all dafny files under some directory.

File: CONTRIBUTING.md [hunk 71]
```diff
@@ -62,3 +62,18 @@ Once it succeeds, one has to go back to (view 1) and re-run the failed jobs, so
...
+
+Since https://github.com/dafny-lang/dafny/pull/2399, it is possible to add \*.dfy files next to other source files.
+The plugin `dafny-msbuild` takes all the dafny files and compile them into a single file `Source/DafnyCore/obj/Debug/net6.0/GeneratedFromDafny.cs`
+that is automatically included in the build process. This file contains also the Dafny run-time in C#.
+One example of such file is `Source/DafnyCore/AST/Formatting.dfy`, and you can use it as a starting point.
+
+Since Dafny cannot read C# files directly, you have to declare the C# functions it is calling using the `{:extern}` attribute, and there are many ways you can
+interoperate with Dafny.
+For example, `Formatting.dfy`
+
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply CONTRIBUTING.md:75]: I don't see any change here?

File: Test/dafny0/formattingcheckfails.dfy.expect (hunk 55 above)
Comment (MikaelMayer) [reply Test/dafny0/formattingcheckfails.dfy.expect:1]: Good catch. This test wasn't run because I was using XFAIL. Now I'm using %exits-with and I can capture the error message. Fixed. Thanks !

File: docs/DafnyRef/UserGuide.md (hunk 56 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:145]: Your example is not a problem for the current dafny formatter, it reports as expected

```
> ./Binaries/Dafny format *.dy
*** Error: 'C:\Users\mimayere\Documents\dafny\*.dy': Filename extension '.dy' is
 not supported. Input files must be Dafny programs (.dfy) or supported auxiliary
 files ()

I also tried with `unexisting*.dfy` and it throws an exception (might not be good but at least it's complaining it cannot read the file)

So here are my thoughts
* I think there are two schools for formatters.
* Some formatting tools I got inspiration from do the same:
  * [dotnet format](https://github.com/dotnet/format) formats all .cs files in the current directory
  * [scalafmt](https://scala-cli.virtuslab.org/docs/commands/fmt/) has the same behavior, it formats all Scala files
  * [cargo fmt](https://github.com/rust-lang/rustfmt) does the same for rust
* Some formatting tools do your suggested approach and don't support zero arguments
  * [go fmt <path>](https://pkg.go.dev/cmd/gofmt), without path it process the stdin
  * [tsfmt -r](https://www.npmjs.com/package/typescript-formatter) does recursive formatting only if there is a project file
  * [JIndent](http://www.newforms-tech.com/products/jindent/components/console) requires an explicit directory.

I remember you worked a lot in Java before, so that's how I understand your strong opinion. I come from a Scala background so I'm used to the first option and I never had an issue as you suggested. At worst, I could kill the formatter.
I personally prefer the first approach because it's a simple action to do - no big deal to format files anyway, if people used the formatter before, their files should be already formatted using it.
I'm ok adding support for directory names as well, down the road. For this first version, I prefer to stick to simplicity. Files => format one file. Nothing => format the directory recursively.

File: docs/DafnyRef/UserGuide.md (hunk 57 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:376]: What do you mean by "needs to format the repo without having to write the directory for it"? One could always explicitly pass "." which is shorter than "--repo".

File: docs/DafnyRef/UserGuide.md (hunk 56 above)
Comment (davidcok) [reply docs/DafnyRef/UserGuide.md:145]: Ah, that behavior (in bash anyway) depends on whether `nullglob` is set. So some users will see `*.dy` stay `*.dy` (if there are no .dy files) and some will see it be replaced by an empty list.

So I'm still strongly for requiring a specific argument (though allowing it to be stdin if there is no argument is OK).
I think it much safer as the command is altering files (recursively!) in place. 

The problem with your 'simplicity' is that it would be a breaking change to then require a directory in the future. If you can currently do the current directory recursively, it seems a very simple change to require a directory and format an arbitrary directory instead of the current directory. And writing `dafny format .` is hardly harder and much clearer than `dafny format`

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 72]
```diff
@@ -404,10 +302,11 @@ public class IndentationFormatter : TopDownVisitor<int>, IIndentationFormatter {
           break;
         case "reads" or "modifies" or "decreases" or "requires" or "ensures" or "invariant" or "yield": {
             if (IsFollowedByNewline(token)) {
+              // In the future, we might want to use this if reducing blockiness as well
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:305]: It's an internal option. Basically, instead of left-aligning expressions (which I have been doing in this formatter PR, after all, it's something only a formatter should do), reducing blockiness I allow expressions to wrap the line.
A few tests summarize the situation

"Normal" for a formatter, à la "blockly". Users don't write this style usually because without a formatter it's painful to add these spaces, and indentation might be a bit too much on small screens, but for code legibility it's can be great.
```
var x := match z {
           case 1 => 2
           case 2 => 3
         };
```
Reducing blockiness (now the default, after considering human-written code to minimize formatting disruptions and also reduce indentation) looks like this:
```
var x := match z {
  case 1 => 2
  case 2 => 3
};
```

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 73]
```diff
@@ -0,0 +1,1875 @@
...
+        return (HelperString.BlankNewlinesWithoutSpaces ? "" : indentationBefore) + match.Groups["commentType"].Value;
+      }
+
+      previousMatchWasSingleLineCommentToAlign = false;
+
+      // Last line
+      return lastIndentation;
+    }
+
+    return HelperString.NewlineRegex.Replace(input, ApplyIndentRules);
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1807]: > Handling the replace seems like a good job for a lambda instead of a named method, because the handling is tied 1-to-1 to the Regex used for the replace.
I inlined the local method.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 74]
```diff
@@ -0,0 +1,1875 @@
...
+    var commentExtra = "";
+    // Invariant: Relative indentation inside a multi-line comment should be unchanged
+    var originalCommentIndent = 0;
+    var newCommentIndent = 0;
+    var previousMatchWasSingleLineCommentToAlign = false;
+
+    // Apply the given rules on a match of a (newline|beginning) + space + comment?
+    string ApplyIndentRules(System.Text.RegularExpressions.Match match) {
+      if (match.Groups["trailingWhitespace"].Success) {
+        return HelperString.RemoveTrailingWhitespace ? "" : match.Groups["trailingWhitespace"].Value;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1668]: > Can we avoid using mutable static state?

I understand that it's better for thread safety. For now, I'll consider cases one by one because I use static fields as a way to interface simply with Dafny, without having to provide explicit options.

For this case, I made `RemoveTrailingWhitespace` readonly.

[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1668]: Renamed `TriviaFormatterHelper`

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 75]
```diff
@@ -0,0 +1,1875 @@
...
+        if (!commentType.StartsWith("/*")) {
+          return match.Groups[0].Value;
+        }
+      }
+
+      if (commentType.Length == 0) {
+        //End of the string. Do we indent or not?
+        return precededByNewline && !trailingTrivia ? lastIndentation :
+          trailingTrivia ? "" : // The leading trivia of the next token is going to take care of the indentation
+          match.Groups[0].Value;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1697]: > What is match.Groups[0].Value ? Could you extract this into a variable?

It's the entire match. I refactored it into a variable.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 76]
```diff
@@ -0,0 +1,1875 @@
...
+  /// ```
+  public string Reindent(IToken token, bool trailingTrivia, bool precededByNewline, string indentationBefore, string lastIndentation) {
+    var input = trailingTrivia ? token.TrailingTrivia : token.LeadingTrivia;
+    var commentExtra = "";
+    // Invariant: Relative indentation inside a multi-line comment should be unchanged
+    var originalCommentIndent = 0;
+    var newCommentIndent = 0;
+    var previousMatchWasSingleLineCommentToAlign = false;
+
+    // Apply the given rules on a match of a (newline|beginning) + space + comment?
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1665]: > What does the ? at the end of this sentence mean?

It's an optional comment. I replaced it with "optional comment"

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 77]
```diff
@@ -0,0 +1,1875 @@
...
+  ///     // Comment
+  ///     // continued
+  ///
+  ///   // Comment here
+  ///   const b := 1
+  ///
+  ///   // One last word
+  /// }
+  /// ```
+  public string Reindent(IToken token, bool trailingTrivia, bool precededByNewline, string indentationBefore, string lastIndentation) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1657]: I had wished to make this method static originally, which would have justified the parameters, but alas, I see that there is a reference to the computation of the visual indent anyway.
So I applied your suggestion, and the resulting code is much cleaner.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 78]
```diff
@@ -0,0 +1,1875 @@
...
+          precededByNewline = true;
+          return commentType;
+        }
+
+        if (!commentType.StartsWith("/*")) {
+          return match.Groups[0].Value;
+        }
+      }
+
+      if (commentType.Length == 0) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1693]: Refactored to a local variable `noMoreComment`

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 69 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1695]: > `trailingTrivia ? "" : (precededByNewline ? lastIndentation : match.Groups[0].Value)`

Nicer equivalent boolean formula indeed.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 70 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1694]: Changed the comment to:
`        //If no comment was captured, it means we reached the end of the trivia. Do we indent or not?`

File: docs/DafnyRef/UserGuide.md (hunk 57 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:376]: That's a correct guess ! Thanks for clarifying your point.

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 77 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1657]: Just did.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 79]
```diff
@@ -0,0 +1,1875 @@
...
+      out nextLeadingTriviaWillBePrecededByNewline);
+  }
+
+  #endregion
+}
+
+
+public static class HelperString {
+  // If we ever decide that blank lines should keep spaces, we can set this to false. 
+  public static bool BlankNewlinesWithoutSpaces = true;
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs:1854]: I made it readonly. I moved both static options to IndentationFormatter.

File: Source/DafnyCore/AST/IndentationFormatter.cs [hunk 80]
```diff
@@ -0,0 +1,1875 @@
...
+ * The indentation of 2. makes is possible to have the token to be a delimiter of two indented regions, like this:
+ * 
+ * ```dafny
+ * if X then
+ * Y
+ * else // Here "else" has its own indentation
+ * Z
+ * ```
+ */
+public class IndentationFormatter : TopDownVisitor<int>, IIndentationFormatter {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/IndentationFormatter.cs]: I split the two classed. I have no problem having a class perform two jobs, but I guess it can be a nice cut-off point.

File: Source/DafnyCore/AST/TopLevelDeclarations.cs (hunk 61 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TopLevelDeclarations.cs:940]: It is never given a "useful value", it's only a pointer to the first useful token, which is being assigned in the scanner.

File: docs/DafnyRef/UserGuide.md [hunk 81]
```diff
@@ -371,8 +371,8 @@ For the formatter to work, the file should be parsed correctly by Dafny.
 
 There are four ways to use the formatter:
 
-* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments.
-* `dafny format --print:- file1.dfy file2.dfy ...` format each file but instead of writing files, output their formatted content in stdout
+* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments, altering the files in place.
+* `dafny format --print file1.dfy file2.dfy ...` format each file but instead of altering the files, output the formatted content to stdout
 * `dafny format` Look up for all the Dafny files recursively in the current repository and format them.
 * `dafny format --check` with the same options as above. It will print a message
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:377]: Still not clear whether this option changes any files. I vote for no change. Rather print out a list of which files would change, preferably with a diff of the changes.

File: docs/DafnyRef/UserGuide.md [hunk 82]
```diff
@@ -371,8 +371,8 @@ For the formatter to work, the file should be parsed correctly by Dafny.
 
 There are four ways to use the formatter:
 
-* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments.
-* `dafny format --print:- file1.dfy file2.dfy ...` format each file but instead of writing files, output their formatted content in stdout
+* `dafny format file1.dfy file2.dfy ...` formats each file provided in arguments, altering the files in place.
+* `dafny format --print file1.dfy file2.dfy ...` format each file but instead of altering the files, output the formatted content to stdout
 * `dafny format` Look up for all the Dafny files recursively in the current repository and format them.
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:376]: But I still want to see the community's take on this behavior -- I really want there to be some argument required for there to be such a big change.

**Review by davidcok — CHANGES_REQUESTED** [review]

**Comment by davidcok** [comment]
There is no way to format material from stdin. I suggest `dafny format` take its input from stdin (and prints to stdout by default). And then have a directory required to format files in a directory.

**Comment by davidcok** [comment]
I was somewhat disappointed to see that the implementation is intrusive with a ICanFormat interface needed on a large number of AST nodes. It was not possible to just walk the tree and produce a pretty-printed, formatted output?

File: Source/DafnyCore/AST/IndentationFormatter.cs (hunk 50 above)
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/IndentationFormatter.cs]: Amazing, thanks a lot!

File: docs/DafnyRef/UserGuide.md (hunk 68 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: You can always use "ls" and "xargs" to provide a specific list of files to format to Dafny.

I'm optimizing for the two most common cases:
* Formatting all the dafny files recursively in a repository as part of a commit process: `dafny format .` (I adopted your suggestion @davidcok  of accepting folders and `dafny format` now returns some usage help)
* Formatting specific dafny files.

File: Source/DafnyCore/Options/CommonOptionBag.cs [hunk 83]
```diff
@@ -203,5 +207,10 @@ public enum TestAssumptionsMode {
         }
       });
   }
+
+
+  public static readonly Option<bool> FormatPrint = new("--print", @"
+Print Dafny program to stdout after formatting it instead of altering the files.".TrimStart()) {
```
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply Source/DafnyCore/Options/CommonOptionBag.cs:213]: Indeed, that's because I had copied a long description that was using TrimStart(). Removed.

**Comment by MikaelMayer** [comment]
> I was somewhat disappointed to see that the implementation is intrusive with a ICanFormat interface needed on a large number of AST nodes. It was not possible to just walk the tree and produce a pretty-printed, formatted output?

"Just walking the tree" was a file with 3000 lines of code.
This choice of implementation offer a guarantee backed by Dafny code that does a single traversal of tokens that the formatted code keeps ALL the tokens' val, no matter the implementation of what nodes can do while implementing ICanFormat.
With a pretty-printer, you would basically have no guarantee and it could break easily.

That's also why I was pretty confident that "dafny format" by itself is not a big deal, given this guarantee.

File: docs/DafnyRef/UserGuide.md (hunk 81 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:377]: > There is no way to format material from stdin. I suggest `dafny format` take its input from stdin (and prints to stdout by default). And then have a directory required to format files in a directory.

I added support for the option "--stdin" which existed before for Dafny.

Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: I refactored this support into a separate PR as well
https://github.com/dafny-lang/dafny/pull/3429

**Comment by MikaelMayer** [comment]
> OK. I did not mean to suggest that your implementation was wrong. Just that if you needed to have that interface here, then future tools that do tree walking will also find a need to be intrusive.

Can you please clarify what do you mean by "intrusive"?
To my view it's often the difference between object-oriented paradigm (put all methods in interfaces and implement them) and functional programming (use pattern matching). Often, both are needed, for example for someone to start prototyping, they would do pattern matching, but as soon as something is mature - like this formatter - it makes sense for maintenance to move the code closer to where it is related.

**Comment by keyboardDrummer** [comment]
> I was somewhat disappointed to see that the implementation is intrusive with a ICanFormat interface needed on a large number of AST nodes. It was not possible to just walk the tree and produce a pretty-printed, formatted output?

Were you hoping for an implementation that is Dafny agnostic? Formatting requires extra information on top of what regular printing needs, for each language construct.

**Comment by davidcok** [comment]
Intrusive. Given a system with an AST and a goal to add some new functionality that involves walking over the tree. Ideally I can do that without having to alter the AST node classes. If I can't I consider the new code intrusive. A need to add in, for example, new interfaces is an impediment to a plugin architecture for example. O-O oriented ASTs in Java solve this by implementing a double-dispatch visitor pattern in every node from the start. Then you can make new tree-processors easily and non-intrusively. I know that functional programming likes datatypes, but I sort of viscerally recoil at the long chains of if-then-else tests that I see when doing AST processing with datatypes; matches are more elegant but still amount to a long chain of match tests -- I like O-O double dispatch for that (efficiency and conciseness) reason. But you do have to setup the visitor infrastructure at design time (or retrofit it).

File: docs/DafnyRef/UserGuide.md [hunk 84]
```diff
@@ -365,7 +365,21 @@ The command emits exit codes of
...
+There are four ways to use the formatter:
+
+* `dafny format file.dfy [file2.dfy ...]` formats the given Dafny files, altering the files in place.
+* `dafny format folder` formats all the Dafny files contain in the given folders, altering the files in place. For example, `dafny format .` formats all the Dafny files recursively in the current folder.
+* `dafny format --print file.dfy` formats each file but instead of altering the files, output the formatted content to stdout
+* `dafny format --check file.dfy` does not alter files. It will print a message concerning which files need formatting.
+
+You can also use `--stdin` instead of providing a file to format a full Dafny file from the standard input.
+
+In any case, each version of `dafny format` returns a non-zero return code
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:381]: Which error code is being used to indicate unformatted input? Something different than other error codes I hope.
I would have suggested a non-zero error code only on
- command-line errors (1, as for dafny)
- parse/resolution errors (2, as for dafny)
- unformatted input, but only for --check -- perhaps 5, to be different than other kinds of errors

File: docs/DafnyRef/UserGuide.md [hunk 85]
```diff
@@ -365,7 +365,21 @@ The command emits exit codes of
...
 
-This command is not yet released, but will be a command that formats source code to a consistent style.
+Dafny supports a formatter, which for now only changes the indentation of every line in a Dafny file, so that it conforms
+to the idiomatic Dafny code formatting style.
+For the formatter to work, the file should be parsed correctly by Dafny.
+
+There are four ways to use the formatter:
+
+* `dafny format file.dfy [file2.dfy ...]` formats the given Dafny files, altering the files in place.
+* `dafny format folder` formats all the Dafny files contain in the given folders, altering the files in place. For example, `dafny format .` formats all the Dafny files recursively in the current folder.
```
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:375]: Can one have multiple folders? Mix them with files?

File: docs/DafnyRef/UserGuide.md (hunk 56 above)
Comment (davidcok) [inline docs/DafnyRef/UserGuide.md:145]:
```suggestion
- There must be at least one `.dfy` file (except when using `--stdin` or in the case of `dafny format`, see the [Dafny format section](#sec-formatting)) 
```

**Comment by keyboardDrummer** [comment]
> Intrusive. ...

Any third party plugin may 'walk the tree' without changing AST nodes, but for features that we want all AST nodes to support, such as being able to be parsed, printed, formatted and resolved, I think it's better to include that code with the AST node type itself, so it is maintained when that AST node is changed, and when new AST nodes are added these features are not forgotten.

File: Source/DafnyCore/AST/TokenNewIndentCollector.cs [hunk 86]
```diff
@@ -0,0 +1,1580 @@
+﻿using System;
+using System.Collections.Generic;
+using System.Diagnostics;
+using System.Linq;
+using System.Text.RegularExpressions;
+
+namespace Microsoft.Dafny;
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/TokenNewIndentCollector.cs:7]: Not blocking: could we still reduce the size of this file to <1K LOC by moving code to related classes?

**Comment by davidcok** [comment]
Remy: No not Dafny agnostic. And its not the need to add trivia tokens and the like to the AST. Those will likely be useful elsewhere. Nor am I suggesting there is a better implementation. It was the need for the interface that bothered me. Because I'd like to think that most new tools could be created by walking the AST without having to modify it.

**Review by davidcok — CHANGES_REQUESTED** [review]
Just a couple more questions and small changes.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 51 above)
[the remark this answers is not in the document]
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/Formatting.dfy:1]: > Also, I have yet to understand the language boundary interface that this particular .dfy file uses.

That part is resolved, thanks!

However,  I'd be very happy to review a PR where Dafny code is added, but this PR is already above the ideal scope of a <400 LOC one. To reduce scope, I prefer it if this Dafny code was added in a follow-up PR. The C# equivalent of Formatting.dfy would be a tiny method so there's shouldn't be much duplicate effort in writing it.

If you want to merge this PR with this Dafny code in, could you get ask @robin-aws to vouch for it?

File: Source/DafnyCore/AST/Formatting.dfy [hunk 87]
```diff
@@ -0,0 +1,181 @@
...
+      ensures i == |allTokens|-1
+    {
+      if Next == null {
+      } else {
+        Next.TokenNextIsNullImpliesLastToken(middle, i-1);
+      }
+    }
+  }
+  class {:extern "TriviaFormatterHelper"} {:compile false} TriviaFormatterHelper {
+    static predicate EndsWithNewline(input: CsString)
```
Comment (keyboardDrummer) [inline Source/DafnyCore/AST/Formatting.dfy:98]: Consider moving this to `IIndentationFormatter`, then `TriviaFormatterHelper` can be merged into `IndentationFormatter`

File: Source/DafnyDriver/Commands/CommandRegistry.cs [hunk 88]
```diff
@@ -28,8 +28,8 @@ static class CommandRegistry {
     AddCommand(new ResolveCommand());
     AddCommand(new VerifyCommand());
     AddCommand(new RunCommand());
-    AddCommand(new BuildCommand());
```
Comment (keyboardDrummer) [inline Source/DafnyDriver/Commands/CommandRegistry.cs:31]: No more build? :' (

**Comment by keyboardDrummer** [comment]
> 2. Using records as values would need to add nullable integers to reproduce the current behavior of being able to specify an indentation one at a time - which is useful for alignments

Either it is three dictionaries that don't contain a value for each key in the input domain, or it is one complete dictionary with a mutable struct with three nullable fields. I prefer the latter.

> 1. I wanted to avoid an unnecessary call to Token.GetHashCode()

I think that won't result in a method call at runtime since it uses the pointer value as a hash-code.

> 2. It did happen in the past that the token of an expression was not the token of the original linked list, because it was wrapped and modified. I think it will continue to happen probably especially with the new code actions for the parser. We could mitigate that by extracting the underlying token of the linkedlist, but storing an integer instead of a token is more robust to my opinion.

Okay, let's be robust :)

**Comment by keyboardDrummer** [comment]
The only blocking comment I have is the one about the .dfy file.

One general comment is that due to the size of this PR, I have not reviewed any of the code that sets the before/inline/after indentations. If you want me to review that could you add it in a separate PR, where this one would maybe only contain it for a single AST Node type?

File: docs/DafnyRef/UserGuide.md (hunk 68 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: To do this, there is already the following command:

```
dafny format --stdin --print
```
so I don't think it's worth adding a special case for "-". First and foremost, no one complained that stdin was not supported in the new Dafny version so I'm pretty sure it won't be a pain point for now, and if it is later, someone could always suggest a PR, but I would be skeptical to support ad-hoc use cases.

[the remark this answers is not in the document]
Comment (davidcok) [reply docs/DafnyRef/UserGuide.md]: Agree - since --print now takes no argument, we don't need -. But what is the default output  when using --stdin? I think it might as well be stdout (not anything like stdin.dfy). One can always redirect it where one wants.

File: docs/DafnyRef/UserGuide.md (hunk 84 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:381]: I'm using `ExitValue.DAFNY_ERROR`, which is 2. Switched to a new value (probably 5), and only if --check is present.

File: docs/DafnyRef/UserGuide.md (hunk 85 above)
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md:375]: Yes to both. Do you have a suggestion on how to word it efficiently?

File: Source/DafnyDriver/Commands/CommandRegistry.cs (hunk 88 above)
Comment (MikaelMayer) [reply Source/DafnyDriver/Commands/CommandRegistry.cs:31]: What's happening here? It's the second time this repeats, and I did not touch it. I wonder what's going on in my IDE. Thanks for checking.

File: Source/DafnyCore/AST/TokenNewIndentCollector.cs (hunk 86 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/TokenNewIndentCollector.cs:7]: I did a best effort and moved 500 LoC outside of this class. Only 1.1K LOC remain, I think I'll stop there, as all the remaining are shared.

File: Source/DafnyCore/AST/Formatting.dfy (hunk 87 above)
Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:98]: > One general comment is that due to the size of this PR, I have not reviewed any of the code that sets the before/inline/after indentations. If you want me to review that could you add it in a separate PR, where this one would maybe only contain it for a single AST Node type?

The best way to review how to above/inline/below indentation is set is to look at the formatting test file. Otherwise, it's very low-level and not very interesting, so feel free to ignore it and just skim over the content.

Comment (MikaelMayer) [reply Source/DafnyCore/AST/Formatting.dfy:98]: > Consider moving this to IIndentationFormatter, then TriviaFormatterHelper can be merged into IndentationFormatter

What do you mean there? I'm not sure I understand. To reduce the size of the file, I already separated TriviaFormatterHelper and it's in another file.

File: docs/DafnyRef/UserGuide.md (hunk 68 above)
[the remark this answers is not in the document]
Comment (MikaelMayer) [reply docs/DafnyRef/UserGuide.md]: Currently, the use of --stdin requires the use of either --check or --print, otherwise it returns an error and explanation.

[the remark this answers is not in the document]
Comment (davidcok) [reply docs/DafnyRef/UserGuide.md]: That's OK, at least until user feedback says differently.

**Review by davidcok — CHANGES_REQUESTED** [review]

File: Source/DafnyCore/AST/TokenNewIndentCollector.cs (hunk 86 above)
Comment (keyboardDrummer) [reply Source/DafnyCore/AST/TokenNewIndentCollector.cs:7]: Thanks! x

**Comment by MikaelMayer** [comment]
I removed the dependency to a previous build of Dafny and set up instructions on how to proceed when we will have dafny itself part fo the build process. @robin-aws likes this idea, so the script that describes this transformation is `DafnyGeneratedFromDafny.sh`, I think it's a good compromise.
For that, I checked in both the dafny file and the generated file. I don't want to rewrite it myself in C# for many reasons
1) We would lose the guarantee that Dafny provides
2) It would be two codes to maintain separatedly.

Also, I added support for --verbose, and --stdin

**Comment by keyboardDrummer** [comment]
> I removed the dependency to a previous build of Dafny and set up instructions on how to proceed when we will have dafny itself part fo the build process. @robin-aws likes this idea, so the script that describes this transformation is `DafnyGeneratedFromDafny.sh`, I think it's a good compromise. For that, I checked in both the dafny file and the generated file. I don't want to rewrite it myself in C# for many reasons
> 
> 1. We would lose the guarantee that Dafny provides
> 2. It would be two codes to maintain separatedly.

Ok, I would like to merge this PR so let's do as you suggest, but let me reply to your points for similar future situations.

Regarding (2), I expect there to be a less than 10 line C# method that would replace the Dafny code, which will only have to live until we replace it with the Dafny code, so I would say maintenance increase is negligible. Even more so, if we add the Dafny code in a separate PR then I'll have the capacity to review it as well, so we'll get higher quality and more maintainable Dafny code.

Regarding (1), I think we would be fine to live without this guarantee for the time until you merge in the Dafny code 

To summarise, this PR is too large to allow me to review it as well as I would like to, so anything that could have been done to make it smaller would've been great.

**Comment by robin-aws** [comment]
> > I removed the dependency to a previous build of Dafny and set up instructions on how to proceed when we will have dafny itself part fo the build process. @robin-aws likes this idea, so the script that describes this transformation is `DafnyGeneratedFromDafny.sh`, I think it's a good compromise. For that, I checked in both the dafny file and the generated file. I don't want to rewrite it myself in C# for many reasons
> > 
> > 1. We would lose the guarantee that Dafny provides
> > 2. It would be two codes to maintain separatedly.
> 
> So, you think we should check in a 5000+ line generated from Dafny C# file, so we can avoid the maintenance and unsafety cost of a less than 10 line C# method?
> 
> What is the build time impact of adding the generated file?
> 
> I don't see why we wouldn't add the Dafny code in a follow-up PR, so we can properly review the Dafny code and the associated impact. I feel a little like this PR is a package deal, but I would really like to be offered the individual items.

To clarify, I like the general approach of checking in the Dafny generated code as a temporary measure to resolve the circular dependency, IF you have to use the local version of Dafny (as I do for [my PR](https://github.com/dafny-lang/dafny/pull/3167), which isn't yet cross-checking the generated code in CI as it needs to before it's ready).

I'm definitely all for introducing Dafny code into the implementation for the verification and "drinking our own champagne" benefits, but I'm with @keyboardDrummer in not being convinced this particular case is worth the impact. In my case I think there's a stronger reason to use Dafny, and I'm not stuck either including the runtime code or depending on the runtime package.

Assuming that the C# version of the Dafny code really isn't a lot of work or risk, I'd park the Dafny version for a little later and bias for getting the formatter in instead!

**Comment by MikaelMayer** [comment]
> > I removed the dependency to a previous build of Dafny and set up instructions on how to proceed when we will have dafny itself part fo the build process. @robin-aws likes this idea, so the script that describes this transformation is `DafnyGeneratedFromDafny.sh`, I think it's a good compromise. For that, I checked in both the dafny file and the generated file. I don't want to rewrite it myself in C# for many reasons
> > 
> > 1. We would lose the guarantee that Dafny provides
> > 2. It would be two codes to maintain separatedly.
> 
> So, you think we should check in a 5000+ line C# file generated from Dafny, so we can avoid the maintenance and unsafety cost of a less than 10 line C# method?

Yes, I persist without hesitation there (with a compromise, see below). What you call the 10 line C# is actually only 50 lines of this entire generated file (the rest is the runtime that we planned to include in Dafny at some point anyway), and these 50 lines are going to grow over time, e.g. to add support for an edit language that would produce the same result as the original loop. Safety is also in maintenance. I don't want to encourage anyone to edit this generated C# file.

Here is my compromise. I edited the generation script so that 1) It removes the runtime, after all, I'm not using anything of the runtime and 2) it simplifies the variable names (that's an unsound step, but it makes the code more readable, happy to remove it if you want) and 3) it removes empty namespaces.

> What is the build time impact of adding the generated file?

No build impact at all, I've been living with this generated file before for a few months now and it does not change anything on the build time.

> I don't see why we wouldn't add the Dafny code in a follow-up PR, so we can properly review the Dafny code and the associated impact. I feel a little like this PR is a package deal, but I would really like to be offered the individual items.

I don't want to commit the generated code if the source is not present with it, at all. We might have different view on that, and I'm happy to argue further there because I think it's an important point. I would strongly oppose checking generated C# code and then the Dafny source in a separate PR. I'm happy to delay publishing of this PR if you need more time to review this 50-line Dafny file.

**Comment by MikaelMayer** [comment]
Also, having Dafny code reviewed in a separate PR, after merging the generated code feels like writing a PR to add a comment after writing code. After all, its not part of the build process, so for now it's a comment or documentation about how the code is behaving.
I think it's way better to put documentation and code in the same PR, unless the documentation is a huge chunk. Here, the Dafny file is only 180 lines of code, which is an acceptable size to my opinion.

**Review by keyboardDrummer — DISMISSED** [review]
Still some warnings/errors in the build

**Review by davidcok — APPROVED** [review]

File: Test/DafnyTests/RunAllTestsOption.dfy.expect [hunk 89]
```diff
@@ -12,7 +12,7 @@ Failing2: FAILED
 	RunAllTestsOption.dfy(29,2): expectation violation
```
Comment (keyboardDrummer) [inline Test/DafnyTests/RunAllTestsOption.dfy.expect:12]: Can we avoid the changes in RunAllTestsOption.dfy.expect and in contract-wrappers?

**Review by keyboardDrummer — COMMENTED** [review]
LGTM except a few changes in expect files

**Review by keyboardDrummer — APPROVED** [review]
